2184-03-19 05:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2184-3-18**] 01:11 PM
 TRANSTHORACIC ECHO - At [**2184-3-18**] 03:48 PM
 URINE CULTURE - At [**2184-3-18**] 03:48 PM
 NASAL SWAB - At [**2184-3-18**] 03:48 PM
 BLOOD CULTURED - At [**2184-3-19**] 04:00 AM
   1 set bld cx drawn from aline at 4am, 2nd set bld cx drawn from hickman
   at 4:30am.
   - intubated for resp distress in the [**Last Name (un) 1429**]
   - initially requiring high fiO2, then weaned down to 60%, still
   requiring PEEP of 15
   - bilateral infiltrates on CXR, on treatment for PCP, [**Name10 (NameIs) **] neg ?ARDS
   - A line placed, getting IV boluses to maintain BP
   Pt intubated & sedated, not responding to commands.
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Vancomycin
 Day 2
   Bactrim (SMX/TMP)
 Day 2
   Meropenem
 Day 2
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-3-18**] 11:40 PM
   Other medications:
   Voriconazole, Acyclovir, Prednisone, PPI, Mycophenolate, Cyclosporin,
   Ursodiol, Tamiflu, Colace, Senna
   Flowsheet Data as of  [**2184-3-19**] 05:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.2
   HR: 75 (73 - 91) bpm
   BP: 105/62(75) {95/50(64) - 125/68(353)} mmHg
   RR: 25 (17 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,488 mL
                                                                    729 mL
   PO:
             TF:
   IVF:
                                                                  2,268 mL
                                                                    699 mL
   Blood products:
   Total out:
                                                                    362 mL
                                                                    161 mL
   Urine:
                                                                    362 mL
                                                                    161 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,126 mL
                                                                    568 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 70%
   PIP: 30 cmH2O
   Plateau: 28 cmH2O
   Compliance: 36.7 cmH2O/mL
   SpO2: 98%
   ABG: 7.34/40/86.[**Numeric Identifier 96**]/18/-3
   Ve: 13.2 L/min
   PaO2 / FiO2: 124
   Physical Examination
   GEN: Well nourished, No acute distress, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g, supple neck,
   unable to apprec JVP
   Respiratory / Chest: coarse BS bilaterally, no w/r/crackles. Moving air
   well
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: trace to +1 bilaterally
   Neurologic: Sedated not responding to commands
   Labs / Radiology
   50 K/uL
   9.6 g/dL
   162
   2.1
   20
   4.8 mEq/L
   39
   105
   131 mEq/L
   29.6 %
   4.2 /uL
        [image002.jpg]
                             [**2184-3-18**]  11:36 AM
                             [**2184-3-18**]  01:27 PM
                             [**2184-3-18**]  04:32 PM
                             [**2184-3-18**]  08:49 PM
                             [**2184-3-18**]  10:02 PM
                             [**2184-3-19**]  12:00 AM
                             [**2184-3-19**]  01:06 AM
                             [**2184-3-19**]  02:33 AM
                             [**2184-3-19**]  03:49 AM
   WBC
   4.2
   Hct
   29.6
   Plt
   50
   Cr
   1.9
   TropT
   <0.01
   TCO2
   23
   22
   22
   22
   21
   20
   23
   Glucose
   155
   Other labs: PT / PTT / INR:15.4/37.2/1.4, CK / CKMB /
   Troponin-T:/2/<0.01, Differential-Neuts:82.3 %, Lymph:10.9 %, Mono:5.8
   %, Eos:1.1 %
   Microbiology: RSV negative
   Urine lytes from [**2184-3-18**] showed Na 11 (after lasix in field)
   Influenza [**Month/Day/Year **] pending
   Blood Cx pending
   Urine Cx pending
   Legionella Ag pending
   Bartonella pending
   CMV pending
   Cryptococcal Ag Pending
   Resp Sputum pending
   Imaging: Lower extremity dopplers IMPRESSION:  No evidence of DVT.
   ECHO [**2184-3-18**]:
   The left atrium is elongated. The estimated right atrial pressure is
   10-20mmHg. Left ventricular wall thicknesses are normal. The left
   ventricular cavity size is normal. Overall left ventricular systolic
   function is low normal (LVEF 50%). There is no ventricular septal
   defect. Right ventricular chamber size and free wall motion are normal.
   The aortic root is mildly dilated at the sinus level. The aortic arch
   is mildly dilated. The number of aortic valve leaflets cannot be
   determined. The aortic valve leaflets are mildly thickened. There is no
   aortic valve stenosis. No aortic regurgitation is seen. The mitral
   valve appears structurally normal with trivial mitral regurgitation.
   The pulmonary artery systolic pressure could not be determined. There
   is a small to moderate sized pericardial effusion. There are no
   echocardiographic signs of tamponade. No right atrial or right
   ventricular diastolic collapse is seen. Compared with the findings of
   the prior study (images reviewed) of [**2183-10-22**], a
   small-to-moderate pericardial effusion is now present.
   CXR Portable from [**2184-3-18**]
   NG tube courses below the diaphragm, but the tip is not well visualized
   on the
   study.  Endotracheal tube and left subclavian catheter remain in
   standard
   position.  Widespread bilateral airspace opacities with relative
   sparing of
   the lung apices shows slight interval improvement, and bilateral
   pleural
   effusions are likely slightly smaller as well.
   Assessment and Plan
   52 yo male with h/o AML failed multiple chemo regimens, now day #121
   s/p cord blood transplant, with h/o aspergillosis, bacillary
   angiomatosis & cardiomyopathy who presents with acute respiratory
   failure.
 ACUTE RESPIRATORY DISTRESS SYNDROME: Differential for ARDS includes
   viral/bacterial/fungal infection in chronically immunocomprimised pt
   vs. pulmonary edema in the setting of heart failure.  Pt was intubated
   in field & being ventilated per ARDS parameters (e.g., TV @ 5-7 cc/kg
   and high RR).  Pt still requiring PEEP of 15 & FiO2 of 70%, unable to
   wean overnight.   CXR continues to show bilateral infiltrates. RSV
   negative, otherwise, all culture data is pending.  ECHO showed low
   normal LVEF at 50%, mildly elev LA & small to mod effusion, no sign of
   tamponade.  BNP elev at 6800, unclear baseline ?[**2176**], however, it
   appears unlikely that resp failure [**2-14**] pulm edema alone. Will attempt
   to [**Month (only) 38**] FiO2 to 60% today and f/u repeat ABG.  Goal to [**Month (only) 38**] PEEP if
   possible and possible bronch today
   - continue Broad spectrum Abx coverage with
   vanc,meropenem,levofloxacin, voriconazole
   - f/u Influenza [**Month (only) **] & continue empiric tamiflu for now
   - empiric Bactrim + Prednsione treatment dose for PCP until rules out
   for PCP
   [**Name Initial (PRE) **] LDH [**Name9 (PRE) **] at 244, trended down to 156 this am, good neg predictive
   value for PCP
   [**Name Initial (PRE) **] [**Name Initial (PRE) **]/u blood cultures, UA & urine cultures
   - f/u CMV viral load, bartonella cultures & fungal markers
   - Consider diagnostic bronch if able to tolerate [**Month (only) 38**] PEEP today
   - f/u ID & BMT recs
 H/O LEUKEMIA, ACUTE s/p cord blood transplantation: AML D+121 s/p
   transplant, with no e/o active leukemia on D+100 bone marrow biopsy.
   Cyclosporine level was 165 on [**3-18**].  Am level still pending, hold am
   dose for now & adjust regimen prn.
   - continue with careful monitoring of cyclosporine level in the setting
   of ARF (if creatinine >3, give 25 mg IV p.m. dose)
   - continue Cellcept home regimen
   - continue PPx with acyclovir, voriconazole, treatment dose Bactrim +
   Prednisone for possible PCP
 RENAL FAILURE, ACUTE : presented with creatinine of 1.8, elev from
   baseline 1.2-1.4, consistent with acute on chronic renal failure.
   Etiology unclear, possibly ATN in the setting of hypoperfusion vs drug
   toxicity (possible agents include acyclovir, cyclosporine, vanc,
   voriconazole) Urine eos were negative & urine lytes [**3-18**] showed high
   sodium avidity. Pt did having marginally adequate UOP despite fluid
   resuscitation. Creatinine increased this am at 2.1, continue fluid
   resuscitation for now.
   - will f/u [**Hospital1 **] lytes & renally dose all meds
   - monitor strict i/os
 h/o ASPERGILLUS INFECTION: pt with h/o sinus aspergillosis, continue
   Voriconazole home regimen.
   - f/u fungal markers & BMT recs
 Hyponatremia: Na trended down overnight, likely due to resuscitation
   with LR.  BP stable, though pt may be underesuscitated & may have a
   mild hypovolemic hyponatermia.  Pt may require further IVF & currently
   getting large amt NS with Bactrim treatment regimen.
   - monitor lytes [**Hospital1 **]
   - strict i/os
Thrombocytopenia: stable at baseline
   - will monitor coags to r/o possibility of DIC, but low suspicion.
   ICU Care
   Nutrition: Pulmonary Nutren at 60cc/hr
   Glycemic Control:  Regular insulin sliding scale
   Lines: Multi Lumen - [**2184-3-18**] 12:00 PM
   18 Gauge - [**2184-3-18**] 01:00 PM
   20 Gauge - [**2184-3-18**] 01:00 PM
   Arterial Line - [**2184-3-18**] 01:11 PM
   Prophylaxis:
   DVT: Boots, sc Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Code status: Full code
   Disposition:ICU

2184-03-19 09:12:00 Physician Attending Progress Note
Chief Complaint: resp failure, ards
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   weaned to 60% fio2 overnight
   neg leni's
   echo--mild ra pressure elevation, lvef 50%, sm to mod pericardial
   effusion
   cxr yesterday--diffuse b/l asd and b/l effusions
 MULTI LUMEN - START [**2184-3-18**] 12:00 PM
   HIckman
 ARTERIAL LINE - START [**2184-3-18**] 01:11 PM
 TRANSTHORACIC ECHO - At [**2184-3-18**] 03:48 PM
 URINE CULTURE - At [**2184-3-18**] 03:48 PM
 NASAL SWAB - At [**2184-3-18**] 03:48 PM
 BLOOD CULTURED - At [**2184-3-19**] 04:00 AM
   1 set bld cx drawn from aline at 4am, 2nd set bld cx drawn from hickman
   at 4:30am.
 BLOOD CULTURED - At [**2184-3-19**] 04:35 AM
   History obtained from house staff
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Vancomycin - [**2184-3-18**] 08:00 PM
   Bactrim (SMX/TMP) - [**2184-3-19**] 05:00 AM
   Meropenem - [**2184-3-19**] 06:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-3-18**] 11:40 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-3-19**] 09:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.2
   HR: 76 (71 - 91) bpm
   BP: 108/61(75) {95/50(64) - 142/79(353)} mmHg
   RR: 25 (17 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,488 mL
                                                                  2,011 mL
   PO:
             TF:
   IVF:
                                                                  2,268 mL
                                                                  1,981 mL
   Blood products:
   Total out:
                                                                    362 mL
                                                                    331 mL
   Urine:
                                                                    362 mL
                                                                    331 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,126 mL
                                                                  1,680 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 28 cmH2O
   Compliance: 36.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.30/38/121/20/-6
   Ve: 13.4 L/min
   PaO2 / FiO2: 173
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: No(t) Normocephalic, Endotracheal tube, OG
   tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases, No(t) Wheezes : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Oriented (to): intubated,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   50 K/uL
   162 mg/dL
   2.1 mg/dL
   20 mEq/L
   4.8 mEq/L
   39 mg/dL
   105 mEq/L
   131 mEq/L
   29.6 %
   4.2 K/uL
        [image002.jpg]
                             [**2184-3-18**]  11:36 AM
                             [**2184-3-18**]  01:27 PM
                             [**2184-3-18**]  04:32 PM
                             [**2184-3-18**]  08:49 PM
                             [**2184-3-18**]  10:02 PM
                             [**2184-3-19**]  12:00 AM
                             [**2184-3-19**]  01:06 AM
                             [**2184-3-19**]  02:33 AM
                             [**2184-3-19**]  03:49 AM
                             [**2184-3-19**]  06:44 AM
   WBC
   4.2
   Hct
   29.6
   Plt
   50
   Cr
   1.9
   2.1
   TropT
   <0.01
   <0.01
   TCO2
   23
   22
   22
   22
   21
   20
   23
   19
   Glucose
   155
   162
   Other labs: PT / PTT / INR:15.4/37.2/1.4, CK / CKMB /
   Troponin-T:[**12-14**]/<0.01, Differential-Neuts:82.3 %, Lymph:10.9 %,
   Mono:5.8 %, Eos:1.1 %, LDH:156 IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.8 mg/dL
   Imaging: cxr:  et at 5 cm, L indwelling cath in svc, b/l asd and
   effusions, increased hazy R base, LUL ? avitary lesion
   Microbiology: RSV neg, inf pending
   sputum cx pending
   viral and atypical cx's pending
   blood pending
   Assessment and Plan
   52 yo M w/ AML, D + 120 s/p BMT presents with hypoxic respiratory
   failure./ards
   > Respiratory Failure, ARDS
   Ddx includes infection/ards (infectious prodrome, CXR with b/l
   infiltrates + air bronchograms) concern for viral-flu, bacterial,
   atypical 9PJP) , aspiration, given coughing and acuteness, pulmonary
   edema (? hx cardiomyopathy, elevated BP + hypoxia on initial
   presentation to ED) , vs  PE (acute onset hypoxia +
   syncope/unresponsiveness), though with CXR appearance pe is far lower
   on ddx.
   - Most c/w infectious process and resultant ARDS.
   - Continue broadly covered as per ID, including tamiflu and PJP
   coverage
   - echo ess stable from prior
   - Blood cultures and viral panel pending.
   - Vent management with ards net volumes--Tolerating low tidal volume
   vent strategy, making progress on fio2-->  given pao2 of 121 would
   further reduce fio2 and repeat gas.  if tolerates would gently reduce
   peep as with such high peeps will likely be diffisult to tolerate
   bronch at this time.  if worsening consider rota bed though no need at
   this time as pao2 are stable with room to move on vent
   - ? cavitary lesion in LUL zone on cxr--ct will be helpful when stable
   enough to tolerate road trip, on vori currently
   > ? flash pulm edema--Echo stable and do not feel that cardiogenic
   edema is issue here.  Currently hemodynamically stable though with
   rising Cr so will aim TBB even to negative as we attempt to wean vent.
   > ARF
> increased slightly from admit and up from baseline.  latn vs
   drug toxicity possibile with recent change from tacro to cyclosporin
   and also with bactrim added yesterday,  follow cyclo troughs.   good
   u/o
   renally dose meds, avoid nephrotoxins and follow closely
   # thrombocytopenia and elevated INR--at baseline, follow, monitor coags
   # hyponatremia--likely resuscitation related, follow [**Hospital1 **] lytes, free
   water restrict
   > AML--s/p BMT. Immunosuppressive regimen per Onc. Cycosporine trough
   goal 150-200 follow levels.  Acyclovir, vori and antibx regimen as
   noted above
   ICU Care
   Nutrition:
   Comments: NPO--> start tfs
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2184-3-18**] 12:00 PM
   18 Gauge - [**2184-3-18**] 01:00 PM
   20 Gauge - [**2184-3-18**] 01:00 PM
   Arterial Line - [**2184-3-18**] 01:11 PM
   Comments: hickman  cath, low threshold for cvl,
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2184-03-20 08:23:00 Physician Resident Progress Note
Chief Complaint: Respiratory Failure
   24 Hour Events:
   -- Cyclosporine levels at toxic levels, afternoon dose was held, at
   dose lowered to 25mg IV BID starting this am
   -- Patient underwent bronchoscopy, microbiology pending
   -- had to go up on PEEP to 15 following bronch
   -- patient w/ improved blood sugars after tightenting SS
   -- has had high TF residuals of 200-300, and concern of needing not
   absorbing PO meds with [** 1462**]
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Vancomycin - [**2184-3-19**] 08:00 AM
   Bactrim (SMX/TMP) - [**2184-3-20**] 05:15 AM
   Meropenem - [**2184-3-20**] 06:16 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-3-20**] 12:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Flowsheet Data as of  [**2184-3-20**] 08:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 69 (65 - 88) bpm
   BP: 121/65(84) {85/45(57) - 144/75(97)} mmHg
   RR: 25 (24 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,750 mL
                                                                  1,398 mL
   PO:
             TF:
                                                                     15 mL
   IVF:
                                                                  5,435 mL
                                                                  1,388 mL
   Blood products:
   Total out:
                                                                  1,617 mL
                                                                    755 mL
   Urine:
                                                                    767 mL
                                                                    405 mL
   NG:
                                                                    850 mL
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  4,133 mL
                                                                    643 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   PIP: 36 cmH2O
   Plateau: 27 cmH2O
   SpO2: 97%
   ABG: 7.28/38/91/19/-6
   Ve: 12 L/min
   PaO2 / FiO2: 152
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, No(t)
   Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   42 K/uL
   9.0 g/dL
   128 mg/dL
   2.7 mg/dL
   19 mEq/L
   5.1 mEq/L
   52 mg/dL
   107 mEq/L
   134 mEq/L
   29.1 %
   4.1 K/uL
        [image002.jpg]
                             [**2184-3-19**]  02:33 AM
                             [**2184-3-19**]  03:49 AM
                             [**2184-3-19**]  06:44 AM
                             [**2184-3-19**]  10:04 AM
                             [**2184-3-19**]  02:30 PM
                             [**2184-3-19**]  04:04 PM
                             [**2184-3-19**]  04:13 PM
                             [**2184-3-19**]  08:36 PM
                             [**2184-3-20**]  04:00 AM
                             [**2184-3-20**]  04:21 AM
   WBC
   4.2
   4.1
   Hct
   29.6
   29.1
   Plt
   50
   42
   Cr
   2.1
   2.4
   2.7
   TropT
   <0.01
   TCO2
   23
   19
   21
   20
   20
   21
   20
   Glucose
   162
   137
   128
   Other labs: PT / PTT / INR:14.5/34.7/1.3, CK / CKMB /
   Troponin-T:[**12-14**]/<0.01, Differential-Neuts:78.6 %, Lymph:14.5 %,
   Mono:5.4 %, Eos:1.5 %, LDH:156 IU/L, Ca++:7.4 mg/dL, Mg++:2.1 mg/dL,
   PO4:5.8 mg/dL
   Imaging: FINDINGS:  In comparison with the study of [**3-18**], there is
   substantial
   clearing of the widespread bilateral airspace consolidations.  This is
   most
   consistent with improvement in pulmonary edema, which is substantially
   less
   than on the previous study.  Enlargement of the cardiac silhouette
   persists.
   The hemidiaphragms are again not seen, consistent with some pleural
   fluid and
   basilar atelectasis.  Tubes remain in place.
   IMPRESSION:  Improving pulmonary opacifications, most likely
   representing
   decreasing pulmonary edema.
   Microbiology: BRONCHOALVEOLAR LAVAGE GRAM STAIN-FINAL; RESPIRATORY
   CULTURE-PENDING; LEGIONELLA CULTURE-PENDING; Immunoflourescent test for
   Pneumocystis jirovecii (carinii)-PENDING; FUNGAL CULTURE-PENDING; ACID
   FAST SMEAR-PENDING; ACID FAST CULTURE-PENDING; VIRAL CULTURE-PENDING;
   VIRAL CULTURE: R/O CYTOMEGALOVIRUS-PENDING
    CRYPTOCOCCAL ANTIGEN NOT DETECTED
   Rapid Respiratory Viral Antigen Test (Final [**2184-3-18**]):
         Respiratory viral antigens not detected.
         CULTURE CONFIRMATION PENDING.
         SPECIMEN SCREENED FOR: ADENO,PARAINFLUENZA 1,2,3 INFLUENZA A,B
   AND
         RSV.
   Assessment and Plan
   52 yo male with h/o AML failed multiple chemo regimens, now day #121
   s/p cord blood transplant, with h/o aspergillosis, bacillary
   angiomatosis & cardiomyopathy who presents with acute respiratory
   failure.
 ACUTE RESPIRATORY DISTRESS SYNDROME: Differential for ARDS includes
   viral/bacterial/fungal infection in chronically immunocomprimised pt
   vs. pulmonary edema in the setting of heart failure.  Pt was intubated
   in field & being ventilated per ARDS parameters (e.g., TV @ 5-7 cc/kg
   and high RR).  Pt still requiring PEEP of 15 & FiO2 of 60%.  PO2 in
   80s, and oxygenation becomes an issue, more aggressive ARDS therapy may
   be warranted.   Patient w/ increasing acidosis, metabolic in nature.
   Not significant room to move w/ respiratory compensation.  [**Month (only) 60**] require
   emergent dialsysis if pH < 7.2.   CXR continues to show bilateral
   infiltrates. RSV negative, influenza negative, cryptonegative. .  ECHO
   showed low normal LVEF at 50%, mildly elev LA & small to mod effusion,
   no sign of tamponade.  BNP elev at 6800, unclear baseline ?[**2176**],
   however, it appears unlikely that resp failure [**2-14**] pulm edema alone.
   Patient had bronch yesterday, w/ no remarkable findings, microbiology
   pending.  Goal to [**Month (only) 38**] PEEP/FIO2
   - continue Broad spectrum Abx coverage with
   vanc,meropenem,levofloxacin, voriconazole
   -  Influenza DFA negative, d/c
d empiric tamiflu for now
   - empiric Bactrim + Prednsione treatment dose for PCP until rules out
   for PCP
   [**Name Initial (PRE) **] LDH [**Name9 (PRE) **] at 244, trended down to 156 this am, good neg predictive
   value for PCP
   [**Name Initial (PRE) **] [**Name Initial (PRE) **]/u blood cultures, UA & urine cultures
   - f/u CMV viral load, bartonella cultures & fungal markers
   - f/u ID & BMT recs
 H/O LEUKEMIA, ACUTE s/p cord blood transplantation: AML D+121 s/p
   transplant, with no e/o active leukemia on D+100 bone marrow biopsy.
   Cyclosporine level was 165 on [**3-18**].  Yesterday
s cyclosporine was toxix
   in 300s, PM dose was held, and dose decreased to 25mg IV q12.  Because
   of concern of [**Month/Day (4) 1462**], cellcept changed to IV.
   - f/u morning cyclosporine level, and touch base w/ BMT to see how PM
   dose should be affected.
   - continue Cellcept home regimen
   - continue PPx with acyclovir, voriconazole, treatment dose Bactrim +
   Prednisone for possible PCP
 RENAL FAILURE, ACUTE : presented with creatinine of 1.8, elev from
   baseline 1.2-1.4, consistent with acute on chronic renal failure.
   Etiology unclear, possibly ATN in the setting of hypoperfusion vs drug
   toxicity (possible agents include acyclovir, cyclosporine, vanc,
   voriconazole) Urine eos were negative x 2 & urine lytes [**3-18**] showed high
   sodium avidity. Pt continues to have have marginally adequate UOP, but
   is not keeping up w/ significant fluid intake.  Cr continues to rise,
   and is currently 3.7.  Etiology on whole believed to be [**2-14**] to
   cyclosporine toxicity.
   - will f/u [**Hospital1 **] lytes & renally dose all meds
   - monitor strict i/os
   - if continues to have worsening renal function, worsened acidosis will
   c/s renal.
   - patient w/ rising Phos and decreasing Ca, cannot take phos binder in
   setting of [**Last Name (LF) 1462**], [**First Name3 (LF) 178**] continute to monitor.
 h/o ASPERGILLUS INFECTION: pt with h/o sinus aspergillosis, continue
   Voriconazole home regimen.
   -          f/u fungal markers & BMT recs\
   -          if on IV vori for 48hrs, would switch to caspofungin.
 Hyponatremia: Resolved.  Likely secondary to fluid resuscitation.
   134 today up from 128.
Thrombocytopenia: stable at baseline
   -          will monitor coags to r/o possibility of DIC, but low
   suspicion.  d/c sc heparin.
   [**First Name3 (LF) **]:  High residuals w/ each feeding, hypoactive bowel sounds.
   Switched over meds to IV, decreased sedating fentanyl.
   ICU Care
   Nutrition:
   Comments: NPO for now [**2-14**] to developing [**Month/Day (2) 1462**]
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2184-3-18**] 12:00 PM
   18 Gauge - [**2184-3-18**] 01:00 PM
   20 Gauge - [**2184-3-18**] 01:00 PM
   Arterial Line - [**2184-3-18**] 01:11 PM
   Prophylaxis:
   DVT: Boots, d/c sc heparin.
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2184-03-20 09:59:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   recent notes reviewed. here with acute resp failure/ARDS
   24 Hour Events:
 BRONCHOSCOPY - At [**2184-3-19**] 02:54 PM - micro pending
   Post bronch, PEEP increased from 12 to 15
   Gram stain no orgs
   Cyclosporine dose decreased based on level
   Tube feed residual increased with hypoactive bowel sounds.
   Acyclovir and Vori switched from PO back to IV
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Vancomycin - [**2184-3-19**] 08:00 AM
   Bactrim (SMX/TMP) - [**2184-3-20**] 05:15 AM
   Meropenem - [**2184-3-20**] 06:16 AM
   Acyclovir - [**2184-3-20**] 08:52 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-3-20**] 08:00 AM
   Other medications:
   Versed at 6mg/hr and Fent at 100
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-3-20**] 09:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 69 (65 - 88) bpm
   BP: 111/59(75) {85/45(57) - 144/75(97)} mmHg
   RR: 25 (24 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,750 mL
                                                                  1,545 mL
   PO:
             TF:
                                                                     15 mL
   IVF:
                                                                  5,435 mL
                                                                  1,535 mL
   Blood products:
   Total out:
                                                                  1,617 mL
                                                                    955 mL
   Urine:
                                                                    767 mL
                                                                    605 mL
   NG:
                                                                    850 mL
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  4,133 mL
                                                                    590 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   PIP: 30 cmH2O
   Plateau: 28 cmH2O
   SpO2: 96%
   ABG: 7.28/38/91/19/-6
   Ve: 13.1 L/min
   PaO2 / FiO2: 152
   Physical Examination
   General Appearance: Well nourished, Sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, No(t) Distended, Bowel sounds hypoactive
   Extremities: Right: 1+, Left: 1+, UE edema
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed, Opens eyes to name, denies pain
   Labs / Radiology
   9.0 g/dL
   42 K/uL
   128 mg/dL
   2.7 mg/dL
   19 mEq/L
   5.1 mEq/L
   52 mg/dL
   107 mEq/L
   134 mEq/L
   29.1 %
   4.1 K/uL
        [image002.jpg]
                             [**2184-3-19**]  02:33 AM
                             [**2184-3-19**]  03:49 AM
                             [**2184-3-19**]  06:44 AM
                             [**2184-3-19**]  10:04 AM
                             [**2184-3-19**]  02:30 PM
                             [**2184-3-19**]  04:04 PM
                             [**2184-3-19**]  04:13 PM
                             [**2184-3-19**]  08:36 PM
                             [**2184-3-20**]  04:00 AM
                             [**2184-3-20**]  04:21 AM
   WBC
   4.2
   4.1
   Hct
   29.6
   29.1
   Plt
   50
   42
   Cr
   2.1
   2.4
   2.7
   TropT
   <0.01
   TCO2
   23
   19
   21
   20
   20
   21
   20
   Glucose
   162
   137
   128
   Other labs: PT / PTT / INR:14.5/34.7/1.3, CK / CKMB /
   Troponin-T:[**12-14**]/<0.01, Differential-Neuts:78.6 %, Lymph:14.5 %,
   Mono:5.4 %, Eos:1.5 %, LDH:156 IU/L, Ca++:7.4 mg/dL, Mg++:2.1 mg/dL,
   PO4:5.8 mg/dL
   Assessment and Plan
 .H/O LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ASPERGILLUS INFECTION, NON- OR SEMI-INVASIVE
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name **])
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 H/O TRANSPLANT, BONE MARROW (BMT)
   52 yo M w/ AML, D + 120 s/p BMT presents with hypoxic respiratory
   failure./ards
   Main issues:
   # Respiratory Failure, ARDS
   - Most c/w infectious process with broad ddx and resultant ARDS.
   - Continue broad spec covererage, including tamiflu and PJP
   coverage/steroids, vanco, meropenem, acyclovir, levofloxacin (renally
   dosed)
   - can chagne Bactrim to prophylaxis doses IF pneumocystis DFA negative
   - Blood cultures, PCP DFA, and viral panel pending.
   - echo ess stable from prior and pulm edema unlikely cardiac in nature.
   But approx 7.5 L positive and likely leaky capillaries
   - Vent management with low tidal volume vent strategy. pao2 of 90 .  If
   tolerates will gently reduce FiO2. If worsening oxygentaiton consider
   diuresis.
   - Worsening acidosis concerning- d/t worsening renal failure +/- sepsis
   -bronch today if able to tolerate reduction in peep
   - ? cavitary lesion in LUL zone on cxr, ? vascular overlay--ct chest
   will be helpful when stable enough to tolerate transport
   # ARF
> increasing creat ? d/t cyclosporin toxicity. atn on ddx but no
   casts on u/a, no hypotension other than possible brief period at [**Hospital1 **] -
   [**Location (un) 1415**]. Still with good u/o. Renally dose meds, avoid nephrotoxins and
   follow closely. Consider renal consult if renal function and acidosis
   become difficult to manage.
   # thrombocytopenia and elevated INR--at baseline, follow, monitor coags
   # hyponatremia--likely resuscitation related, follow [**Hospital1 **] lytes, free
   water restrict
   # AML--s/p BMT. Immunosuppressive regimen per Onc. Cycosporine trough
   goal 150-200 follow levels.  Acyclovir, vori and antibx regimen as
   noted above
   # ?Ileus - hold feeds for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2184-3-18**] 12:00 PM
   18 Gauge - [**2184-3-18**] 01:00 PM
   20 Gauge - [**2184-3-18**] 01:00 PM
   Arterial Line - [**2184-3-18**] 01:11 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2184-03-21 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - volume overload, renal failure with elev K & phos, per renal, OK to
   diurese, giving higher entry level dose of lasix, 80-100mg
   - per renal, 3 amps bicarb
   - tube feeds held [**2-14**] high residuals
   - SC heparin d/c'd
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Vancomycin - [**2184-3-20**] 10:15 AM
   Levofloxacin - [**2184-3-20**] 12:27 PM
   Acyclovir - [**2184-3-20**] 08:30 PM
   Voriconazole - [**2184-3-20**] 11:54 PM
   Bactrim (SMX/TMP) - [**2184-3-21**] 05:00 AM
   Meropenem - [**2184-3-21**] 05:27 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-3-20**] 08:00 AM
   Pantoprazole (Protonix) - [**2184-3-20**] 08:00 PM
   Other medications:
   Flowsheet Data as of  [**2184-3-21**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.2
   HR: 68 (63 - 69) bpm
   BP: 110/82(95) {108/57(73) - 130/82(95)} mmHg
   RR: 25 (23 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,403 mL
                                                                  1,949 mL
   PO:
             TF:
   IVF:
                                                                  5,393 mL
                                                                  1,949 mL
   Blood products:
   Total out:
                                                                  2,815 mL
                                                                  1,065 mL
   Urine:
                                                                  1,965 mL
                                                                    965 mL
   NG:
                                                                    850 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  2,588 mL
                                                                    884 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 27 cmH2O
   Compliance: 47.8 cmH2O/mL
   SpO2: 98%
   ABG: 7.33/36/109/17/-6
   Ve: 12.7 L/min
   PaO2 / FiO2: 182
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   48 K/uL
   8.7 g/dL
   145 mg/dL
   2.6 mg/dL
   17 mEq/L
   5.4 mEq/L
   55 mg/dL
   110 mEq/L
   136 mEq/L
   26.7 %
   2.2 K/uL
        [image002.jpg]
                             [**2184-3-19**]  02:30 PM
                             [**2184-3-19**]  04:04 PM
                             [**2184-3-19**]  04:13 PM
                             [**2184-3-19**]  08:36 PM
                             [**2184-3-20**]  04:00 AM
                             [**2184-3-20**]  04:21 AM
                             [**2184-3-20**]  03:50 PM
                             [**2184-3-20**]  03:51 PM
                             [**2184-3-21**]  06:25 AM
                             [**2184-3-21**]  06:40 AM
   WBC
   4.1
   2.2
   Hct
   29.1
   26.7
   Plt
   42
   48
   Cr
   2.4
   2.7
   2.6
   TCO2
   20
   20
   21
   20
   18
   20
   Glucose
   137
   128
   145
   Other labs: PT / PTT / INR:14.5/34.7/1.3, CK / CKMB /
   Troponin-T:[**12-14**]/<0.01, Differential-Neuts:78.6 %, Lymph:14.5 %,
   Mono:5.4 %, Eos:1.5 %, Albumin:2.5 g/dL, LDH:156 IU/L, Ca++:6.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:5.6 mg/dL
   Imaging: CXR from [**3-20**]
   Study is somewhat limited as the lower lung fields have been cut off
   from the
   study.  Endotracheal tube and left-sided central venous catheter are
   unchanged
   in position.  There is cardiomegaly.  There is opacification of the
   lung bases
   likely due to large pleural effusions, however this is again
   incompletely
   visualized.
   Microbiology: Urine Cx [**3-18**] neg
   Legionella [**3-18**] neg
   Rapid Viral Ag screen [**3-18**] neg for RSV, Influenza, Parainfluenza, Adeno
   but final viral culture pending
   Bartonella [**3-18**] pending
   Cryptococcal Ag [**3-18**] neg
   Blood Cx from [**3-18**] & [**3-19**] all NGTD
   Sputum from [**3-19**]:
   GRAM STAIN (Final [**2184-3-19**]):
         2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):    NO GROWTH.
      LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
      Immunoflourescent test for Pneumocystis jirovecii (carinii)
   (Pending):
      FUNGAL CULTURE (Pending):
      ACID FAST SMEAR (Preliminary):
         NO ACID FAST BACILLI SEEN ON DIRECT SMEAR.
         This is only a PRELIMINARY result.  If ruling out tuberculosis,
   you
         must wait for confirmation by concentrated smear.
      ACID FAST CULTURE (Pending):
   Assessment and Plan
   Assessment and Plan
   52 yo male with h/o AML failed multiple chemo regimens, now day #121
   s/p cord blood transplant, with h/o aspergillosis, bacillary
   angiomatosis & cardiomyopathy who presents with acute respiratory
   failure.
 ACUTE RESPIRATORY DISTRESS SYNDROME: Differential for ARDS includes
   viral/bacterial/fungal infection in chronically immunocomprimised pt
   vs. pulmonary edema in the setting of heart failure.  Pt was intubated
   in field & being ventilated per ARDS parameters (e.g., TV @ 5-7 cc/kg
   and high RR).  Pt still requiring PEEP of 15 & FiO2 of 60%.  PO2 in
   80s, and oxygenation becomes an issue, more aggressive ARDS therapy may
   be warranted.   Patient w/ increasing acidosis, metabolic in nature.
   Not significant room to move w/ respiratory compensation.  [**Month (only) 60**] require
   emergent dialsysis if pH < 7.2.   CXR continues to show bilateral
   infiltrates. RSV negative, influenza negative, cryptonegative. .  ECHO
   showed low normal LVEF at 50%, mildly elev LA & small to mod effusion,
   no sign of tamponade.  BNP elev at 6800, unclear baseline ?[**2176**],
   however, it appears unlikely that resp failure [**2-14**] pulm edema alone.
   Patient had bronch yesterday, w/ no remarkable findings, microbiology
   pending.  Goal to [**Month (only) 38**] PEEP/FIO2
   - continue Broad spectrum Abx coverage with
   vanc,meropenem,levofloxacin, voriconazole
   -  Influenza DFA negative, d/c
d empiric tamiflu for now
   - empiric Bactrim + Prednsione treatment dose for PCP until rules out
   for PCP
   [**Name Initial (PRE) **] LDH [**Name9 (PRE) **] at 244, trended down to 156 this am, good neg predictive
   value for PCP
   [**Name Initial (PRE) **] [**Name Initial (PRE) **]/u blood cultures, UA & urine cultures
   - f/u CMV viral load, bartonella cultures & fungal markers
   - f/u ID & BMT recs
 H/O LEUKEMIA, ACUTE s/p cord blood transplantation: AML D+121 s/p
   transplant, with no e/o active leukemia on D+100 bone marrow biopsy.
   Cyclosporine level was 165 on [**3-18**].  Yesterday
s cyclosporine was toxix
   in 300s, PM dose was held, and dose decreased to 25mg IV q12.  Because
   of concern of [**Month/Day (4) 1462**], cellcept changed to IV.
   - f/u morning cyclosporine level, and touch base w/ BMT to see how PM
   dose should be affected.
   - continue Cellcept home regimen
   - continue PPx with acyclovir, voriconazole, treatment dose Bactrim +
   Prednisone for possible PCP
 RENAL FAILURE, ACUTE : presented with creatinine of 1.8, elev from
   baseline 1.2-1.4, consistent with acute on chronic renal failure.
   Etiology unclear, possibly ATN in the setting of hypoperfusion vs drug
   toxicity (possible agents include acyclovir, cyclosporine, vanc,
   voriconazole) Urine eos were negative x 2 & urine lytes [**3-18**] showed high
   sodium avidity. Pt continues to have have marginally adequate UOP, but
   is not keeping up w/ significant fluid intake.  Cr continues to rise,
   and is currently 3.7.  Etiology on whole believed to be [**2-14**] to
   cyclosporine toxicity.
   - will f/u [**Hospital1 **] lytes & renally dose all meds
   - monitor strict i/os
   - if continues to have worsening renal function, worsened acidosis will
   c/s renal.
   - patient w/ rising Phos and decreasing Ca, cannot take phos binder in
   setting of [**Last Name (LF) 1462**], [**First Name3 (LF) 178**] continute to monitor.
 h/o ASPERGILLUS INFECTION: pt with h/o sinus aspergillosis, continue
   Voriconazole home regimen.
   -          f/u fungal markers & BMT recs\
   -          if on IV vori for 48hrs, would switch to caspofungin.
 Hyponatremia: Resolved.  Likely secondary to fluid resuscitation.
   134 today up from 128.
Thrombocytopenia: stable at baseline
   -          will monitor coags to r/o possibility of DIC, but low
   suspicion.  d/c sc heparin.
   [**First Name3 (LF) **]:  High residuals w/ each feeding, hypoactive bowel sounds.
   Switched over meds to IV, decreased sedating fentanyl.
   ICU Care
   Nutrition: TF held due to high residuals
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2184-3-18**] 12:00 PM
   18 Gauge - [**2184-3-18**] 01:00 PM
   20 Gauge - [**2184-3-18**] 01:00 PM
   Arterial Line - [**2184-3-18**] 01:11 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:  chlorhexidine
   Code status: FULL
   Disposition: ICU

2184-03-21 11:25:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52 yo male with h/o AML failed multiple chemo regimens, s/p cord blood
   transplant, with h/o aspergillosis, bacillary angiomatosis &
   cardiomyopathy who presents with acute respiratory failure/ARDS. No hx
   of GVHD
   24 Hour Events:
   Renal - ok to diurese with higher lasix doses
   K+ remains at 5.3
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Levofloxacin - [**2184-3-20**] 12:27 PM
   Voriconazole - [**2184-3-20**] 11:54 PM
   Bactrim (SMX/TMP) - [**2184-3-21**] 05:00 AM
   Meropenem - [**2184-3-21**] 05:27 AM
   Acyclovir - [**2184-3-21**] 07:36 AM
   Vancomycin - [**2184-3-21**] 08:37 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2184-3-20**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-3-21**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98.1
   HR: 72 (63 - 72) bpm
   BP: 114/58(75) {102/57(73) - 130/82(95)} mmHg
   RR: 5 (5 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,403 mL
                                                                  2,767 mL
   PO:
             TF:
   IVF:
                                                                  5,393 mL
                                                                  2,767 mL
   Blood products:
   Total out:
                                                                  2,815 mL
                                                                  1,355 mL
   Urine:
                                                                  1,965 mL
                                                                  1,255 mL
   NG:
                                                                    850 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  2,588 mL
                                                                  1,412 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 28 cmH2O
   Compliance: 44 cmH2O/mL
   SpO2: 96%
   ABG: 7.33/36/109/19/-6
   Ve: 13 L/min
   PaO2 / FiO2: 182
   Physical Examination
   General Appearance: Well nourished, intubated
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S2: Normal, No(t) Distant), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Crackles : )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   48 K/uL
   187 mg/dL
   2.6 mg/dL
   19 mEq/L
   5.3 mEq/L
   59 mg/dL
   109 mEq/L
   137 mEq/L
   26.7 %
   2.2 K/uL
        [image002.jpg]
                             [**2184-3-19**]  02:30 PM
                             [**2184-3-19**]  04:04 PM
                             [**2184-3-19**]  04:13 PM
                             [**2184-3-19**]  08:36 PM
                             [**2184-3-20**]  04:00 AM
                             [**2184-3-20**]  04:21 AM
                             [**2184-3-20**]  03:50 PM
                             [**2184-3-20**]  03:51 PM
                             [**2184-3-21**]  06:25 AM
                             [**2184-3-21**]  06:40 AM
   WBC
   4.1
   2.2
   Hct
   29.1
   26.7
   Plt
   42
   48
   Cr
   2.4
   2.7
   2.6
   2.6
   TCO2
   20
   20
   21
   20
   18
   20
   Glucose
   137
   128
   145
   187
   Other labs: PT / PTT / INR:15.4/32.9/1.4, CK / CKMB /
   Troponin-T:[**12-14**]/<0.01, Differential-Neuts:78.6 %, Lymph:14.5 %,
   Mono:5.4 %, Eos:1.5 %, Albumin:2.5 g/dL, LDH:156 IU/L, Ca++:6.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:5.4 mg/dL
   Imaging: CXR - ETT ok. More pulmonary edema than yesterday. Likely
   bilat effusions
   Microbiology: Urine cx [**3-18**] neg.
   Rapid viral screen neg
   Bartonella pending
   Blood cultures all neg to date
   BAL - leg neg, pcp pending, fungal pending, afb neg, gram stain 2+pmns,
   no organisms
   ECG: Reviewed - increased voltage throughout. Question of slightly
   increased T waves.
   Assessment and Plan
   52 yo male with h/o AML failed multiple chemo regimens, now day 123 s/p
   cord blood transplant, with h/o aspergillosis, bacillary angiomatosis &
   cardiomyopathy who presents with acute respiratory failure.
ARDS complicated by overall volume overload: Differential for ARDS
   includes viral/bacterial/fungal infection in chronically
   immunocomprimised pt vs. pulmonary edema in the setting of heart
   failure.  Pt was intubated in field & being ventilated per ARDS
   parameters (e.g., TV @ 5-7 cc/kg and high RR).  Pt still requiring PEEP
   of 15 & FiO2 of 60%.  PO2 109 today. Metabolic acidosis, may require
   emergent dialsysis if pH < 7.2. On HCO3 drip now.  CXR continues to
   show bilateral infiltrates and effusions. ECHO showed low normal LVEF
   at 50%, mildly elev LA & small to mod effusion, no sign of tamponade.
   BNP elev at 6800, unclear baseline ?[**2176**], however, it appears unlikely
   that resp failure [**2-14**] pulm edema alone. Patient had bronch, w/ no
   remarkable findings, microbiology pending.  Goal to [**Month (only) 38**] PEEP/FIO2
   -  continue Broad spectrum Abx coverage with
   vanc,meropenem,levofloxacin, voriconazole
   -  Influenza DFA negative, d/c
d empiric tamiflu for now
   -  empiric Bactrim will be d/c
d today
 low suspicion for PCP with low
   LDH. F/u on dfa on BAL. Taper down solumedrol.
   -  LDH elev at 244, trended down to 156 this am, good neg predictive
   value for PCP
   [**Name Initial (PRE) **]  [**Name Initial (PRE) **]/u blood cultures, UA & urine cultures
   - CMV negative, f/u bartonella cultures & fungal markers
   -  f/u ID & BMT recs
 H/O LEUKEMIA, ACUTE s/p cord blood transplantation: AML D+121 s/p
   transplant, with no e/o active leukemia on D+100 bone marrow biopsy.
   Cyclosporine level was 165 on [**3-18**].  Yesterday
s cyclosporine was toxix
   in 300s, PM dose was held, and dose decreased to 25mg IV q12.  Because
   of concern of illeus, cellcept changed to IV.
   - f/u cyclosporine trough.
   - continue Cellcept home regimen
   - continue PPx with acyclovir, voriconazole, atovaquone
 RENAL FAILURE, ACUTE : presented with creatinine of 1.8, elev from
   baseline 1.2-1.4, now at 2.6. Acute on chronic renal failure.  Etiology
   unclear, possibly ATN in the setting of hypoperfusion vs drug toxicity
   (possible agents include acyclovir, cyclosporine) Urine eos were
   negative x 2 & urine lytes [**3-18**] showed high sodium avidity. Pt continues
   to have have marginally adequate UOP, but is not keeping up w/
   significant fluid intake.  Non gap acidosis. Etiology on whole believed
   to be [**2-14**] to cyclosporine toxicity.
   - will f/u [**Hospital1 **] lytes & renally dose all meds,  monitoring strict i/os
   - if continues to have worsening renal function, worsened acidosis will
   c/s renal.
   - rising Phos  5.4 and decreasing Ca, cannot take phos binder in
   setting of illeus, start Ca replacement scale
 h/o ASPERGILLUS INFECTION: pt with h/o sinus aspergillosis, continue
   Voriconazole home regimen.
   -          f/u glucan/galactomannin, EBV pending.
   -          f/u BMT recs
   -          if on IV vori for 48hrs, would switch to caspofungin?
Thrombocytopenia: stable at baseline
   -          will monitor coags to r/o possibility of DIC, but low
   suspicion.
   -         d/c sc heparin
 Ileus:  High residuals w/ each feeding, hypoactive bowel sounds.
   Switched over meds to IV, decreased sedating fentanyl.
   -          consider Abd CT today, no BMs since admission
 .H/O LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 ASPERGILLUS INFECTION, NON- OR SEMI-INVASIVE
 H/O TRANSPLANT, BONE MARROW (BMT)
   ICU Care
   Nutrition: tube feeds held, possible ileus
   Glycemic Control:  Regular insulin sliding scale
   Lines: Hickman
   Multi Lumen - [**2184-3-18**] 12:00 PM
   18 Gauge - [**2184-3-18**] 01:00 PM
   20 Gauge - [**2184-3-18**] 01:00 PM
   Arterial Line - [**2184-3-18**] 01:11 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Family meeting held  Comments: Updated sister and father
   [**Name (NI) 66**] status: Full code
   Disposition :ICU, prognosis guarded
   Total time spent: 45 minutes
   Patient is critically ill

2184-03-22 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - metabolic acidosis persists despite 3amps of bicarb
   - potassium was rising at 5.4, renal consulted for am
   - started chlorthiazide & lasix gtt, having good uop & K coming down
   - weaning fiO2 & PEEP overnight
   - KUB showed non specific bowel gas pattern, still holding TFs, gave
   kayexalate and pt had a large BM this am
   - PCP aspirate negative [**Name Initial (PRE) **] 1, per ID still getting one more day of
   Bactrim
   Pt opening eyes, but otherwise, not responding.
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Day 5 Levofloxacin
   Day 5 Vancomycin
   Day 5 Bactrim (SMX/TMP)
   Day 5 Meropenem
   Acyclovir - [**2184-3-21**] 07:36 AM
   Voriconazole - [**2184-3-22**] 12:00 AM
   Infusions:
   Fentanyl - 40 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) gtt
   Pantoprazole (Protonix) - [**2184-3-21**] 08:00 PM
   Other medications:
   Flowsheet Data as of  [**2184-3-22**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.7
   HR: 77 (67 - 89) bpm
   BP: 113/57(75) {99/50(64) - 127/89(96)} mmHg
   RR: 25 (5 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,586 mL
                                                                    648 mL
   PO:
             TF:
   IVF:
                                                                  4,326 mL
                                                                    598 mL
   Blood products:
   Total out:
                                                                  3,575 mL
                                                                  1,605 mL
   Urine:
                                                                  3,475 mL
                                                                  1,605 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  1,011 mL
                                                                   -957 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 11 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 20 cmH2O
   SpO2: 96%
   ABG: 7.37/37/86/21/-3
   Ve: 14.5 L/min
   PaO2 / FiO2: 172
   Physical Examination
   GEN: NAD, [**Month (only) 38**] ruddiness to complexion, opening eyes, not responding to
   commands
   HEENT: intubated, supple neck
   CV: RRR no m/r/g
   RESP: CTAB coarse BS, no w/r
   ABD: BS present, soft, NT/ND
   EXTR: +1 pitting edema
   Labs / Radiology
   CXR KUB:
   IMPRESSION:
   Nonspecific bowel gas pattern.
   50 K/uL
   9.7 g/dL
   128 mg/dL
   3.0 mg/dL
   21 mEq/L
   4.8 mEq/L
   75 mg/dL
   107 mEq/L
   142 mEq/L
   30.6 %
   3.5 K/uL
        [image002.jpg]
                             [**2184-3-20**]  03:51 PM
                             [**2184-3-21**]  06:25 AM
                             [**2184-3-21**]  06:40 AM
                             [**2184-3-21**]  04:42 PM
                             [**2184-3-21**]  05:08 PM
                             [**2184-3-21**]  10:30 PM
                             [**2184-3-21**]  10:39 PM
                             [**2184-3-22**]  01:20 AM
                             [**2184-3-22**]  04:48 AM
                             [**2184-3-22**]  05:01 AM
   WBC
   2.2
   2.8
   2.9
   3.5
   Hct
   26.7
   27.6
   29.3
   30.6
   Plt
   48
   45
   50
   50
   Cr
   2.6
   2.6
   2.6
   2.9
   3.0
   TCO2
   20
   21
   23
   22
   22
   Glucose
   145
   187
   166
   178
   164
   140
   128
   Other labs: PT / PTT / INR:14.7/28.9/1.3, CK / CKMB /
   Troponin-T:[**12-14**]/<0.01, Differential-Neuts:78.6 %, Lymph:14.5 %,
   Mono:5.4 %, Eos:1.5 %, Lactic Acid:1.4 mmol/L, Albumin:2.5 g/dL,
   LDH:156 IU/L, Ca++:7.4 mg/dL, Mg++:2.2 mg/dL, PO4:6.1 mg/dL
   Microbiology:    MICROSPORIDIA STAIN (Pending):
      CYCLOSPORA STAIN (Pending):
      Cryptosporidium/Giardia (DFA) (Pending):
      CLOSTRIDIUM DIFFICILE TOXIN ASSAY (Pending):
      VIRAL CULTURE (Pending):
   Other stool studies canceled due to hosp day 5
   NASAL aspirate for PCP [**Name Initial (PRE) 1257**] [**3-21**]
      GRAM STAIN (Final [**2184-3-19**]):
         2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Final [**2184-3-21**]):    NO GROWTH.
      LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
      Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
         [**2184-3-21**]):
         NEGATIVE for Pneumocystis jirvovecii (carinii).
         REPORTED BY PHONE TO DR.[**Last Name (STitle) 1498**] [**2184-3-21**] AT 13:10.
      FUNGAL CULTURE (Pending):
      ACID FAST SMEAR (Preliminary):
         NO ACID FAST BACILLI SEEN ON DIRECT SMEAR.
         This is only a PRELIMINARY result.  If ruling out tuberculosis,
   you
         must wait for confirmation by concentrated smear.
      ACID FAST CULTURE (Pending):
   Bartonella still pending
   Assessment and Plan
   Assessment and Plan:
   52 yo male with h/o AML failed multiple chemo regimens, now day #125
   s/p cord blood transplant, with h/o aspergillosis, bacillary
   angiomatosis & cardiomyopathy who presents with acute respiratory
   failure/ARDS
 ACUTE RESPIRATORY DISTRESS SYNDROME: Differential for ARDS includes
   viral/bacterial/fungal infection in chronically immunocomprimised pt
   vs. pulmonary edema in the setting of heart failure.  Pt was intubated
   in field & being ventilated per ARDS parameters. Metabolic acidosis
   improved today. Pt may require emergent dialsysis if pH < 7.2.  ECHO
   showed low normal LVEF at 50%, mildly elev LA & small to mod effusion,
   no sign of tamponade. It would be unlikely that resp failure [**2-14**] pulm
   edema alone. Patient had bronch [**3-19**] with no remarkable findings,
   microbiology pending.  Goal to [**Month (only) 38**] FIO2 today to 40% & PEEP down to 11.
   - continue broad spectrum Abx coverage Day 5 of
   vanc,meropenem,levofloxacin, voriconazole
   - Influenza DFA negative, d/c
d tamiflu
   - pt was changed to po Bactrim for 1 more day per ID recs
   - [**Month (only) 38**] methylprednisolone to 30mg q24hrs, further wean today
   - repeating aspirate for PCP & Viral swabs (RSV, Para, Adeno)
   - LDH elev at 244, trended down to 156 (neg predictive value for PCP)
   - f/u blood cultures, UA & urine cultures NGTD
   - CMV negative, f/u bartonella cultures & fungal markers
   - f/u BMT recs
 H/O LEUKEMIA, ACUTE s/p cord blood transplantation: AML D+124 s/p
   transplant, with no e/o active leukemia on D+100 bone marrow biopsy.
   Cyclosporine level was 173 today, will proceed with pm dosing.  Due to
   concern of illeus, all meds including cellcept was changed to IV.
   Cyclosporin 173 yesterday, am level pending
   - continue with daily cyclosporine level monitoring, dose per level
   with BMT recs
   - continue Cellcept home regimen
   - continue PPx with acyclovir, voriconazole, ?Bactrim + Prednisone wean
   for possible PCP
 RENAL FAILURE, ACUTE : Etiology unclear, possibly ATN in the setting
   of hypoperfusion vs drug toxicity (possible agents include acyclovir,
   cyclosporine, vanc, voriconazole) Urine eos were neg x 2 & urine lytes
   [**3-18**] showed high sodium avidity. Pt now having good UOP in response to
   lasix gtt, will admin chlorthiazide again today.  Acidosis improved
   this am with 2 amps of bicarb overnight.  Continue to d/w renal, apprec
   consult this am
   - will f/u [**Hospital1 **] lytes & renally dose all meds
   - monitoring strict i/os with goal of neg 1L today
   - potassium WNL today
   - started Calcium replacement scales
   - chlorthiazide?
 h/o ASPERGILLUS INFECTION: pt with h/o sinus aspergillosis, continue
   Voriconazole home regimen.
   -f/u glucan/galactomannin, EBV pending.
   -f/u BMT recs
   -will replace NG with OG tube to avoid nasal infection
Thrombocytopenia: stable at baseline
   -monitor coags to r/o possibility of DIC, but low suspicion.
 Illeus: resolving, KUB showed nonspecific bowel gas pattern. consider
   restarting TF today.
   - BM today, stool studies pending
   ICU Care
   Nutrition: Pulm Renal
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2184-3-18**] 12:00 PM
   18 Gauge - [**2184-3-18**] 01:00 PM
   20 Gauge - [**2184-3-18**] 01:00 PM
   Arterial Line - [**2184-3-18**] 01:11 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:  chlorhexidine
   Code status: FULL CODE
   Disposition:  ICU

2184-03-22 11:03:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Started on lasix drip
   Bowel regimen increased
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Levofloxacin - [**2184-3-20**] 12:27 PM
   Vancomycin - [**2184-3-21**] 08:37 AM
   Voriconazole - [**2184-3-22**] 12:00 AM
   Meropenem - [**2184-3-22**] 05:58 AM
   Acyclovir - [**2184-3-22**] 08:00 AM
   Bactrim (SMX/TMP) - [**2184-3-22**] 09:56 AM
   Infusions:
   Fentanyl - 40 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2184-3-21**] 07:45 PM
   Pantoprazole (Protonix) - [**2184-3-21**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-3-22**] 11:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.4
   HR: 73 (73 - 89) bpm
   BP: 127/69(87) {99/50(64) - 135/89(96)} mmHg
   RR: 25 (18 - 26) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,586 mL
                                                                    994 mL
   PO:
             TF:
   IVF:
                                                                  4,326 mL
                                                                    844 mL
   Blood products:
   Total out:
                                                                  3,575 mL
                                                                  2,780 mL
   Urine:
                                                                  3,475 mL
                                                                  2,780 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  1,011 mL
                                                                 -1,786 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 11 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   SpO2: 93%
   ABG: 7.37/37/86/21/-3
   Ve: 13.5 L/min
   PaO2 / FiO2: 172
   Physical Examination
   General Appearance: Overweight / Obese, No(t) Anxious, sedated
   Head, Ears, Nose, Throat: No(t) Poor dentition
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, opens eyes, nods head slightly to command
   Labs / Radiology
   9.7 g/dL
   50 K/uL
   128 mg/dL
   3.0 mg/dL
   21 mEq/L
   4.8 mEq/L
   75 mg/dL
   107 mEq/L
   142 mEq/L
   30.6 %
   3.5 K/uL
        [image002.jpg]
                             [**2184-3-20**]  03:51 PM
                             [**2184-3-21**]  06:25 AM
                             [**2184-3-21**]  06:40 AM
                             [**2184-3-21**]  04:42 PM
                             [**2184-3-21**]  05:08 PM
                             [**2184-3-21**]  10:30 PM
                             [**2184-3-21**]  10:39 PM
                             [**2184-3-22**]  01:20 AM
                             [**2184-3-22**]  04:48 AM
                             [**2184-3-22**]  05:01 AM
   WBC
   2.2
   2.8
   2.9
   3.5
   Hct
   26.7
   27.6
   29.3
   30.6
   Plt
   48
   45
   50
   50
   Cr
   2.6
   2.6
   2.6
   2.9
   3.0
   TCO2
   20
   21
   23
   22
   22
   Glucose
   145
   187
   166
   178
   164
   140
   128
   Other labs: PT / PTT / INR:14.7/28.9/1.3, CK / CKMB /
   Troponin-T:[**12-14**]/<0.01, Differential-Neuts:78.6 %, Lymph:14.5 %,
   Mono:5.4 %, Eos:1.5 %, Lactic Acid:1.4 mmol/L, Albumin:2.5 g/dL,
   LDH:156 IU/L, Ca++:7.4 mg/dL, Mg++:2.2 mg/dL, PO4:6.1 mg/dL
   Assessment and Plan
   52 yo male with h/o AML failed multiple chemo regimens, now day 123 s/p
   cord blood transplant, with h/o aspergillosis, bacillary angiomatosis &
   cardiomyopathy who presents with acute respiratory failure.
   1. Resp failure with ARDS: PO2 86 today. Metabolic acidosis improving.
   CXR continues to show bilateral infiltrates and effusions. Patient had
   bronch, w/ no remarkable findings, microbiology pending.  Goal to
   decrease PEEP
   -  continue Broad spectrum Abx coverage with
   vanc,meropenem,levofloxacin, voriconazole, acyclovir
   -  Influenza DFA negative, d/c
d empiric tamiflu for now.
   -  empiric Bactrim will be continued as PO
 low suspicion for PCP with
   low LDH. F/u on dfa on BAL. Taper down solumedrol.
   -  LDH elev at 244, trended down to 156 this am, good neg predictive
   value for PCP
   [**Name Initial (PRE) **]  [**Name Initial (PRE) **]/u blood cultures, UA & urine cultures
   - CMV negative, f/u bartonella cultures & fungal markers
   -  f/u ID & BMT recs
   2. AML: s/p cord blood transplantation: AML D+121 s/p transplant, with
   no e/o active leukemia on D+100 bone marrow biopsy. Cyclosporine level
   was 165 on [**3-18**].  Yesterday
s cyclosporine was toxix in 300s, PM dose
   was held, and dose decreased to 25mg IV q12.  Because of concern of
   illeus, cellcept changed to IV.
   - f/u cyclosporine trough.
   - continue Cellcept home regimen
   - continue PPx with acyclovir, voriconazole, atovaquone
    3. ARF: presented with creatinine of 1.8, elev from baseline 1.2-1.4,
   now at 3.0. Acute on chronic renal failure.  Etiology unclear, possibly
   ATN in the setting of hypoperfusion vs drug toxicity (possible agents
   include acyclovir, cyclosporine) Urine eos were negative x 2 & urine
   lytes [**3-18**] showed high sodium avidity. Good UOP on lasix drip. Non gap
   acidosis. Etiology on whole believed to be [**2-14**] to cyclosporine
   toxicity.
   - will f/u [**Hospital1 **] lytes & renally dose all meds,  monitoring strict i/os
   - continues to have worsening renal function, c/s renal.
   - rising Phos  5.4 and decreasing Ca, cannot take phos binder in
   setting of illeus, start Ca replacement scale
   4. h/o ASPERGILLUS INFECTION: pt with h/o sinus aspergillosis, continue
   Voriconazole home regimen.
   -          f/u glucan/galactomannin, EBV pending.
   -          f/u BMT recs
   5. Thrombocytopenia: stable at baseline
   -          will monitor coags to r/o possibility of DIC, but low
   suspicion.
   -         d/c sc heparin
   6.  Question of Ileus: KUB unremarkable and had BM. Start tube feeds
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2184-3-18**] 12:00 PM
   18 Gauge - [**2184-3-18**] 01:00 PM
   20 Gauge - [**2184-3-18**] 01:00 PM
   Arterial Line - [**2184-3-18**] 01:11 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments: Family updated
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2184-03-23 08:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- renal to see in AM, renal u/s ordred
   -- cyclosporine at therapeutic level
   -- continue on lasix gtt w/ thiazide --> was > negative 3L
   -- d/c'd bactrim --> started on PCP [**Name9 (PRE) **] [**Name Initial (PRE) **]/ atorvaquone
   -- Increased FiO2 to 60% 2/2 to low PO2.  PO2 w/ some improvement, O2
   sats up from 90 to 95%
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Levofloxacin - [**2184-3-20**] 12:27 PM
   Vancomycin - [**2184-3-21**] 08:37 AM
   Bactrim (SMX/TMP) - [**2184-3-22**] 09:56 AM
   Acyclovir - [**2184-3-22**] 12:09 PM
   Voriconazole - [**2184-3-23**] 12:09 AM
   Meropenem - [**2184-3-23**] 06:16 AM
   Infusions:
   Fentanyl - 30 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2184-3-23**] 04:30 AM
   Fentanyl - [**2184-3-23**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-3-23**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98.1
   HR: 69 (67 - 82) bpm
   BP: 123/72(88) {114/60(76) - 135/77(96)} mmHg
   RR: 25 (23 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,076 mL
                                                                    458 mL
   PO:
             TF:
                                                                    157 mL
   IVF:
                                                                  1,588 mL
                                                                    298 mL
   Blood products:
   Total out:
                                                                  5,370 mL
                                                                  1,150 mL
   Urine:
                                                                  5,370 mL
                                                                  1,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,294 mL
                                                                   -692 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 23 cmH2O
   SpO2: 94%
   ABG: 7.43/36/69/22/0
   Ve: 14 L/min
   PaO2 / FiO2: 115
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right: 1+, Left: 1+, 2+ swelling in UE
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   66 K/uL
   9.9 g/dL
   117 mg/dL
   2.6 mg/dL
   22 mEq/L
   7.3 mEq/L
   89 mg/dL
   106 mEq/L
   137 mEq/L
   29.3 %
   3.2 K/uL
        [image002.jpg]
                             [**2184-3-21**]  10:39 PM
                             [**2184-3-22**]  01:20 AM
                             [**2184-3-22**]  04:48 AM
                             [**2184-3-22**]  05:01 AM
                             [**2184-3-22**]  01:30 PM
                             [**2184-3-22**]  04:02 PM
                             [**2184-3-22**]  08:08 PM
                             [**2184-3-22**]  10:35 PM
                             [**2184-3-23**]  05:26 AM
                             [**2184-3-23**]  06:23 AM
   WBC
   3.5
   3.2
   Hct
   30.6
   29.3
   Plt
   50
   66
   Cr
   3.0
   2.8
   2.6
   TCO2
   23
   22
   22
   23
   24
   24
   25
   Glucose
   164
   140
   128
   153
   117
   Other labs: PT / PTT / INR:14.5/26.5/1.3, CK / CKMB /
   Troponin-T:[**12-14**]/<0.01, ALT / AST:31/59, Alk Phos / T Bili:90/0.2,
   Differential-Neuts:52.5 %, Lymph:41.0 %, Mono:5.7 %, Eos:0.4 %, Lactic
   Acid:1.2 mmol/L, Albumin:2.5 g/dL, LDH:156 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.3 mg/dL, PO4:6.2 mg/dL
   Imaging: FECAL CULTURE-PENDING; CAMPYLOBACTER CULTURE-PENDING
   OVA + PARASITES-PENDING
   Immunoflourescent test for Pneumocystis jirovecii (carinii)-FINAL
   BAL:  GRAM STAIN (Final [**2184-3-19**]):
         2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Final [**2184-3-21**]):    NO GROWTH.
      LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
      Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
         [**2184-3-21**]):
         NEGATIVE for Pneumocystis jirvovecii (carinii).
         REPORTED BY PHONE TO DR.[**Last Name (STitle) 1498**] [**2184-3-21**] AT 13:10.
      FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
      ACID FAST SMEAR (Final [**2184-3-22**]):
         NO ACID FAST BACILLI SEEN ON DIRECT SMEAR.
         NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.
      ACID FAST CULTURE (Pending):
   Microbiology: Lines and tubes are in standard position.  Perihilar and
   basilar pulmonary
   edema have markedly worsened, accompanied by slight increase in size of
   small-to-moderate bilateral pleural effusions.
   Assessment and Plan
   52 y/o male with h/o AML failed multiple chemo regimens, now day #125
   s/p cord blood transplant who presents with acute respiratory
   failure/ARDS.
 ACUTE RESPIRATORY DISTRESS SYNDROME: Differential for ARDS includes
   viral/bacterial/fungal infection in chronically immunocomprimised pt
   vs. pulmonary edema in the setting of heart failure.  Pt was intubated
   in and being ventilated per ARDS parameters. There is still a
   significant component of volume overload. ECHO on adm showed LVEF at
   50%, it is unlikely that resp failure [**2-14**] pulm edema alone, but likely
   a secondary process from aggressive fluid resuscitation and ARF.
   Patient had bronch [**3-19**] with no remarkable findings, microbiology all
   negative.
   - PO2 low on today
s ABG, will increase PEEP to 12 to see if helps, if
   not, will attempt requitment maneuver.  Will also decrease RR given
   patients autopeeping and respiratory alkelemia.
   - continue broad spectrum Abx coverage Day 6 of  vanc,meropenem,
   voriconazole.
   - completed 5 days of Levofloxacin
   - Influenza DFA negative, d/c
d tamiflu
   - Bacrtim d/c'd yesterday once repeat PCP aspirate returned, on
   atovaqone for PPx
   - continue methylprednisolone wean to 20mg q24hrs yesterday, will
   decrease to 10mg daily today
   - f/u repeat aspirate for PCP & Viral swabs (RSV, Para, Adeno)
   - f/u blood cultures, UA & urine cultures NGTD
   - CMV negative, f/u bartonella cultures & glucan (galactomannin
   negative)
   -          f/u BMT recs
 H/O LEUKEMIA, ACUTE s/p cord blood transplantation: AML D+125 s/p
   transplant, with no e/o active leukemia on D+100 bone marrow biopsy.
   Cyclosporine level was 173 yesterday, will proceed with pm dosing.
   Will convert IV meds back to PO meds today given resolution of ileus.
   Cyclosporin 173 yesterday, todays am level pending
   - continue with daily cyclosporine level monitoring, dose per level
   with BMT recs
   - continue Cellcept home regimen
   - continue PPx with acyclovir, voriconazole
   - will need to resume Bactrim vs Atovaquone for PCP [**Name9 (PRE) 1512**] if aspirate
   negative and Bactrim treatment dose is stopped.
 RENAL FAILURE, ACUTE : Etiology unclear, possibly ATN in the setting
   of hypoperfusion vs drug toxicity.  Pt with worsening renal failure,
   metabolic acidosis & hyperkalemia.  Pt now having good UOP on Lasix gtt
   + chlorthiazide. K came down with po kayexalate & bicarb providing
   temporary buffer. Continue to d/w renal, apprec consult this am
   - urine lytes c/w pre-renal etiology, c/w cyclosporine toxicity
   - as have lowered cyclosporine levels to therapeutic range, have seen
   improvement of Cr, patient making notable urine output now.
   - will f/u [**Hospital1 **] lytes & renally dose all meds.  Hyperkalemia improved w/
   improved renal fxn and lasix gtt.
   - monitoring strict i/os with goal of neg 2L today on  Lasix 5mg/hr +
   chlorthiazide 500mg daily, will give lasix boluses if falling behind.
   - start Calcium replacement scales
   - start Lanthanum phos binder
 h/o ASPERGILLUS INFECTION: pt with h/o sinus aspergillosis, continue
   Voriconazole home regimen.
   -f/u glucan, EBV NOW NEGATIVE. (galactomannin neg)
   -f/u BMT recs
Thrombocytopenia: stable at baseline
 Illeus: resolving, KUB showed nonspecific bowel gas pattern, pt now
   having BMs.
   - restart TF today
   -residuals improved w/ reglan
   - BM yesterday, stool studies pending
   ICU Care
   Nutrition:
   TF
   Glycemic Control:
   Lines:
   Multi Lumen - [**2184-3-18**] 12:00 PM
   18 Gauge - [**2184-3-18**] 01:00 PM
   20 Gauge - [**2184-3-18**] 01:00 PM
   Arterial Line - [**2184-3-18**] 01:11 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPi
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2184-03-23 09:50:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   On Lasix drip with prn thiazide - overall negative 3 L
   Tube feed residuals elevated - reglan started, this am, resolved
   Air trapping on vent, RR decreased from 25 to 22
                   Patient unable to provide history: Sedated
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Levofloxacin - [**2184-3-20**] 12:27 PM
   Vancomycin - [**2184-3-21**] 08:37 AM
   Bactrim (SMX/TMP) - [**2184-3-22**] 09:56 AM
   Acyclovir - [**2184-3-22**] 12:09 PM
   Voriconazole - [**2184-3-23**] 12:09 AM
   Meropenem - [**2184-3-23**] 06:16 AM
   Infusions:
   Fentanyl - 30 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2184-3-23**] 04:30 AM
   Fentanyl - [**2184-3-23**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-3-23**] 09:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.2
   HR: 83 (67 - 83) bpm
   BP: 153/88(110) {114/60(76) - 153/88(110)} mmHg
   RR: 25 (23 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,076 mL
                                                                    503 mL
   PO:
             TF:
                                                                    157 mL
   IVF:
                                                                  1,588 mL
                                                                    343 mL
   Blood products:
   Total out:
                                                                  5,370 mL
                                                                  1,410 mL
   Urine:
                                                                  5,370 mL
                                                                  1,410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,294 mL
                                                                   -907 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 21 cmH2O
   SpO2: 98%
   ABG: 7.43/36/69/22/0
   Ve: 15.7 L/min
   PaO2 / FiO2: 115
   Physical Examination
   General Appearance: Overweight / Obese, No(t) Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right: 1+, Left: 1+, 2+ UE edema
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   66 K/uL
   117 mg/dL
   2.6 mg/dL
   22 mEq/L
   4.9 mEq/L
   89 mg/dL
   106 mEq/L
   137 mEq/L
   29.3 %
   3.2 K/uL
        [image002.jpg]
                             [**2184-3-21**]  10:39 PM
                             [**2184-3-22**]  01:20 AM
                             [**2184-3-22**]  04:48 AM
                             [**2184-3-22**]  05:01 AM
                             [**2184-3-22**]  01:30 PM
                             [**2184-3-22**]  04:02 PM
                             [**2184-3-22**]  08:08 PM
                             [**2184-3-22**]  10:35 PM
                             [**2184-3-23**]  05:26 AM
                             [**2184-3-23**]  06:23 AM
   WBC
   3.5
   3.2
   Hct
   30.6
   29.3
   Plt
   50
   66
   Cr
   3.0
   2.8
   2.6
   TCO2
   23
   22
   22
   23
   24
   24
   25
   Glucose
   164
   140
   128
   153
   117
   Other labs: PT / PTT / INR:14.5/26.5/1.3, CK / CKMB /
   Troponin-T:[**12-14**]/<0.01, ALT / AST:31/59, Alk Phos / T Bili:90/0.2,
   Differential-Neuts:52.5 %, Lymph:41.0 %, Mono:5.7 %, Eos:0.4 %, Lactic
   Acid:1.2 mmol/L, Albumin:2.5 g/dL, LDH:156 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:6.2 mg/dL
   Fluid analysis / Other labs: Most recent ABG - 7.41/37/66
   Assessment and Plan
   52 yo male with h/o AML failed multiple chemo regimens, now day 124 s/p
   cord blood transplant, with h/o aspergillosis, bacillary angiomatosis &
   cardiomyopathy who presents with acute respiratory failure.
    1. Resp failure with ARDS:  CXR continues to show bilateral
   infiltrates and effusions. Patient had bronch, w/ no remarkable
   findings, microbiology pending. Continues to be hypoxemic. Will do
   recruitment trial with increased PEEP. Not yet ready to wean. Will
   continue to diurese as tolerated.
    2. ID: continue broad spectrum Abx coverage with
   vanc,meropenem,levofloxacin, voriconazole, acyclovir. Non-neutropenic
   -  Influenza DFA negative, d/c
d empiric tamiflu for now.  Empiric
   Bactrim will be continued as PO, low suspicion for PCP with low LDH.
   Taper down solumedrol.
   3. AML: s/p cord blood transplantation: with no e/o active leukemia on
   D+100 bone marrow biopsy. Cyclosporine level was 165 on [**3-18**].
   Cyclosporine levels elevated in 300s, dose decreased. On cellcept. On
   atovaquone for PCP [**Name Initial (PRE) 1374**].
   4. ARF: presented with creatinine 1.8, elev from baseline 1.2-1.4, now
   trending down. Acute on chronic renal failure.  Etiology unclear,
   possibly ATN in the setting of hypoperfusion vs drug toxicity (possible
   agents include acyclovir, cyclosporine). Urine eos were negative x 2 &
   urine lytes [**3-18**] showed high sodium avidity. Good UOP on lasix drip +
   prn thiazide. Metabolic acidosis improving slowly. Renal consult
   requested.
   5. Hx of aspergillus infection / sinus aspergillosis - on voriconazole
   home regimen.
   6. Thrombocytopenia: improving, baseline is ~50s.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2184-3-18**] 12:00 PM
   18 Gauge - [**2184-3-18**] 01:00 PM
   20 Gauge - [**2184-3-18**] 01:00 PM
   Arterial Line - [**2184-3-18**] 01:11 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 37 minutes
   Patient is critically ill

2184-03-24 08:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - renal US - no hydro
   - FeUrea - 50%
   - steroid taper
   Pt opening eyes but not responding to commands
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Atovaquone
   Acyclovir
   Voriconazole
   Day 7 Vancomycin
   Day 7 Meropenem
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2184-3-23**] 08:00 PM
   Fentanyl - [**2184-3-24**] 02:15 AM
   Midazolam (Versed) - [**2184-3-24**] 04:15 AM
   Other medications:
   Flowsheet Data as of  [**2184-3-24**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.9
C (98.4
   HR: 74 (67 - 88) bpm
   BP: 117/65(82) {116/63(79) - 157/100(110)} mmHg
   RR: 20 (0 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,154 mL
                                                                    503 mL
   PO:
             TF:
                                                                    240 mL
                                                                    122 mL
   IVF:
                                                                  1,364 mL
                                                                    331 mL
   Blood products:
   Total out:
                                                                  3,740 mL
                                                                  1,180 mL
   Urine:
                                                                  3,740 mL
                                                                  1,180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,586 mL
                                                                   -677 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 23 cmH2O
   SpO2: 96%
   ABG: 7.37/40/91/24/-1
   Ve: 10.2 L/min
   PaO2 / FiO2: 182
   Physical Examination
   GEN: NAD, opening eyes, but not responding to command
   CV: RRR no m/r/g
   RESP: coarse BS throughout, but moving air well, no w/r
   ABD: soft, NT/ND, NABS
   EXTR: +1 pitting edema, no c/c/e
   Labs / Radiology
   RENAL U/S [**3-23**]
   FINDINGS:  Limited portable study performed in the ICU. The left kidney
   measures 11.6 cm. The right kidney measures 10.9 cm.  No mass, stone or
   hydronephrosis is present within the kidneys.  The bladder is collapsed
    around
   a Foley catheter.
   IMPRESSION:  No hydronephrosis.
   CXR [**3-23**]:
   Limited study, bilateral pulm edema unchanged
   49 K/uL
   9.8 g/dL
   120 mg/dL
   2.4 mg/dL
   24 mEq/L
   5.2 mEq/L
   92 mg/dL
   111 mEq/L
   141 mEq/L
   30.4 %
   4.0 K/uL
        [image002.jpg]
                             [**2184-3-22**]  04:02 PM
                             [**2184-3-22**]  08:08 PM
                             [**2184-3-22**]  10:35 PM
                             [**2184-3-23**]  05:26 AM
                             [**2184-3-23**]  06:23 AM
                             [**2184-3-23**]  09:30 AM
                             [**2184-3-23**]  01:28 PM
                             [**2184-3-23**]  04:40 PM
                             [**2184-3-24**]  05:51 AM
                             [**2184-3-24**]  06:13 AM
   WBC
   3.2
   4.0
   Hct
   29.3
   30.4
   Plt
   66
   49
   Cr
   2.8
   2.6
   2.5
   2.4
   TCO2
   24
   24
   25
   24
   24
   24
   Glucose
   153
   117
   152
   120
   Other labs: PT / PTT / INR:14.2/26.9/1.2, CK / CKMB /
   Troponin-T:[**12-14**]/<0.01, ALT / AST:31/59, Alk Phos / T Bili:90/0.2,
   Differential-Neuts:52.5 %, Lymph:41.0 %, Mono:5.7 %, Eos:0.4 %, Lactic
   Acid:1.3 mmol/L, Albumin:2.5 g/dL, LDH:156 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:5.7 mg/dL
   Vancomycin level 20.7
   Cyclosporine 180
   Glucan & EBV pending
   Galactomannin (aspergillus) neg
[**2184-3-12**] 12:33 pm SPUTUM     Site: ENDOTRACHEAL **FINAL REPORT [**2184-3-15**]**
   GRAM STAIN (Final [**2184-3-12**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      1+    (<1 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
   RESPIRATORY CULTURE (Final [**2184-3-15**]):
      OROPHARYNGEAL FLORA ABSENT.
      KLEBSIELLA PNEUMONIAE.    MODERATE GROWTH.
         WARNING! This isolate is an extended-spectrum beta-lactamase
         (ESBL) producer and should be considered resistant to all
         penicillins, cephalosporins, and aztreonam. Consider Infectious
         Disease consultation for serious infections caused by
         ESBL-producing species.
      YEAST.    SPARSE GROWTH.
[**2184-3-22**] 4:47 am STOOL     CONSISTENCY: SOFT
   MICROSPORIDIA STAIN (Final [**2184-3-22**]):    NO MICROSPORIDIUM SEEN.
   CYCLOSPORA STAIN (Final [**2184-3-22**]):    NO CYCLOSPORA SEEN.
   Cryptosporidium/Giardia (DFA) (Final [**2184-3-22**]):
      NO CRYPTOSPORIDIUM OR GIARDIA SEEN.
   CLOSTRIDIUM DIFFICILE TOXIN ASSAY (Final [**2184-3-22**]):
      FECES NEGATIVE FOR C. DIFFICILE TOXIN BY EIA.
           (Reference Range-Negative).
   VIRAL CULTURE (Preliminary):    No Virus isolated so far.
OVA & PARASITES [**3-23**] Negative
PCP Negative from [**3-21**]
DFA negative from [**3-21**]
Viral Culture Neg to date [**3-19**]
   Assessment and Plan
   52 y/o male with h/o AML failed multiple chemo regimens, now day #125
   s/p cord blood transplant who presents with acute respiratory
   failure/ARDS.
 ACUTE RESPIRATORY DISTRESS SYNDROME: Differential for ARDS includes
   viral/bacterial/fungal infection in chronically immunocomprimised pt
   vs. pulmonary edema in the setting of heart failure.  Pt was intubated
   in and being ventilated per ARDS parameters. There is still a
   significant component of volume overload. ECHO on adm showed LVEF at
   50%, it is unlikely that resp failure [**2-14**] pulm edema alone, but likely
   a secondary process from aggressive fluid resuscitation and ARF.
   Patient had bronch [**3-19**] with no remarkable findings, microbiology all
   negative.
   - continue broad spectrum Abx coverage Day 7 of  vanc,meropenem,
   voriconazole.
   - completed 5 days of Levofloxacin
   - Influenza DFA negative, d/c
d tamiflu
   - Bactrim d/c'd yesterday once repeat PCP aspirate returned, on
   atovaqone for PPx
   - continue methylprednisolone wean to 20mg q24hrs yesterday, will
   decrease to 10mg daily today
   - f/u repeat aspirate for PCP & Viral swabs (RSV, Para, Adeno)
   - f/u blood cultures, UA & urine cultures NGTD
   - CMV negative, f/u bartonella cultures & glucan (galactomannin
   negative)
   - f/u BMT recs
 H/O LEUKEMIA, ACUTE s/p cord blood transplantation: AML D+125 s/p
   transplant, with no e/o active leukemia on D+100 bone marrow biopsy.
   Cyclosporine level was 173 yesterday, will proceed with pm dosing.
   Will convert IV meds back to PO meds today given resolution of ileus.
   Cyclosporin 173 yesterday, todays am level pending
   - continue with daily cyclosporine level monitoring, dose per level
   with BMT recs
   - continue Cellcept home regimen
   - continue PPx with acyclovir, voriconazole
   - continue Atovaquone for PCP [**Name9 (PRE) 1512**] if aspirate negative and Bactrim
   treatment dose is stopped.
 RENAL FAILURE, ACUTE : Etiology unclear, possibly ATN in the setting
   of hypoperfusion vs drug toxicity.  Pt with worsening renal failure,
   metabolic acidosis & hyperkalemia.  Pt now having good UOP on Lasix gtt
   + chlorthiazide. K came down with po kayexalate & bicarb providing
   temporary buffer. Continue to d/w renal, apprec consult this am
   - urine lytes c/w pre-renal etiology, c/w cyclosporine toxicity?
   - will f/u [**Hospital1 **] lytes & renally dose all meds.  Hyperkalemia improved w/
   improved renal fxn and lasix gtt.
   - monitoring strict i/os with goal of neg 2L today on  Lasix 5mg/hr +
   chlorthiazide 500mg daily, will give lasix boluses if falling behind.
   - start Calcium replacement scales
   - Lanthanum phos binder
 h/o ASPERGILLUS INFECTION: pt with h/o sinus aspergillosis, continue
   Voriconazole home regimen.
   -f/u glucan, EBV NOW NEGATIVE. (galactomannin neg)
   -f/u BMT recs
Thrombocytopenia: stable at baseline
 Illeus: resolving, KUB showed nonspecific bowel gas pattern, pt now
   having BMs.
   - restarted TF yesterday, residuals improved w/ reglan
   - stool studies pending
   ICU Care
   Nutrition: Nutren Renal (Full) - [**2184-3-23**] 12:00 PM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines: Multi Lumen - [**2184-3-18**] 12:00 PM
   Arterial Line - [**2184-3-18**] 01:11 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Code status: Full code
   Disposition:ICU

2184-03-24 11:44:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   U/s - no hydro
   Steroids taperred further
                   Patient unable to provide history: Sedated, intubated
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2184-3-22**] 09:56 AM
   Acyclovir - [**2184-3-22**] 12:09 PM
   Voriconazole - [**2184-3-23**] 12:09 AM
   Vancomycin - [**2184-3-23**] 09:59 AM
   Atovaquone - [**2184-3-23**] 08:00 PM
   Meropenem - [**2184-3-24**] 06:00 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2184-3-23**] 08:00 PM
   Fentanyl - [**2184-3-24**] 02:15 AM
   Midazolam (Versed) - [**2184-3-24**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-3-24**] 11:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (98.9
   HR: 73 (72 - 88) bpm
   BP: 120/66(84) {116/63(79) - 157/100(110)} mmHg
   RR: 20 (0 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,154 mL
                                                                    761 mL
   PO:
             TF:
                                                                    240 mL
                                                                    194 mL
   IVF:
                                                                  1,364 mL
                                                                    482 mL
   Blood products:
   Total out:
                                                                  3,740 mL
                                                                  1,990 mL
   Urine:
                                                                  3,740 mL
                                                                  1,990 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,586 mL
                                                                 -1,229 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 21 cmH2O
   SpO2: 95%
   ABG: 7.37/40/91/24/-1
   Ve: 11 L/min
   PaO2 / FiO2: 182
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant/lat)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   49 K/uL
   120 mg/dL
   2.4 mg/dL
   24 mEq/L
   5.2 mEq/L
   92 mg/dL
   111 mEq/L
   141 mEq/L
   30.4 %
   4.0 K/uL
        [image002.jpg]
                             [**2184-3-22**]  04:02 PM
                             [**2184-3-22**]  08:08 PM
                             [**2184-3-22**]  10:35 PM
                             [**2184-3-23**]  05:26 AM
                             [**2184-3-23**]  06:23 AM
                             [**2184-3-23**]  09:30 AM
                             [**2184-3-23**]  01:28 PM
                             [**2184-3-23**]  04:40 PM
                             [**2184-3-24**]  05:51 AM
                             [**2184-3-24**]  06:13 AM
   WBC
   3.2
   4.0
   Hct
   29.3
   30.4
   Plt
   66
   49
   Cr
   2.8
   2.6
   2.5
   2.4
   TCO2
   24
   24
   25
   24
   24
   24
   Glucose
   153
   117
   152
   120
   Other labs: PT / PTT / INR:14.2/26.9/1.2, CK / CKMB /
   Troponin-T:[**12-14**]/<0.01, ALT / AST:31/59, Alk Phos / T Bili:90/0.2,
   Differential-Neuts:52.5 %, Lymph:41.0 %, Mono:5.7 %, Eos:0.4 %, Lactic
   Acid:1.3 mmol/L, Albumin:2.5 g/dL, LDH:156 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:5.7 mg/dL
   Fluid analysis / Other labs: Plat decreased from 66
   Imaging: CXR reviewed personally
   Assessment and Plan
   52 yo male with h/o AML failed multiple chemo regimens, now day 125 s/p
   cord blood transplant, with h/o aspergillosis, bacillary angiomatosis &
   cardiomyopathy who presents with acute respiratory failure.
   1. Resp failure with ARDS:  CXR continues to show bilateral infiltrates
   and effusions but somewhat improved, with better pO2. Will decrease
   PEEP to 10. Patient had bronch, w/ no remarkable findings, microbiology
   pending. Continues to be hypoxemic. Will do recruitment trial with
   increased PEEP. Will continue to diures.
    2. ID: continue broad spectrum Abx coverage with vanc,meropenem,
   voriconazole. Non-neutropenic.
   -  Influenza DFA negative, d/c
d empiric tamiflu for now.  Low
   suspicion for PCP with low LDH. On atovaq proph. Off solumedrol now.
   Acyclovir proph was d/c
   3. AML: s/p cord blood transplantation: with no e/o active leukemia on
   D+100 bone marrow biopsy. Cyclosporine level was 165 on [**3-18**].
   Cyclosporine levels elevated in 300s, dose decreased. On cellcept..
   4. ARF: presented with creatinine 1.8, elev from baseline 1.2-1.4, now
   trending down. Acute on chronic renal failure.  Etiology unclear,
   urine sediment bland. Cyclosporin in setting of calcineuron inhibitor
   with baseline renal insufficiency may have contributed. Urine eos were
   negative x 2 & urine lytes [**3-18**] showed high sodium avidity. Good UOP on
   lasix drip + prn thiazide. Metabolic acidosis improving slowly. Renal
   consult appreciated.
   5. Hx of aspergillus infection / sinus aspergillosis - on voriconazole
   home regimen.
   6. HYperkalemia
   6. Thrombocytopenia: at baseline, ~50.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2184-3-23**] 12:00 PM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2184-3-18**] 12:00 PM
   Arterial Line - [**2184-3-18**] 01:11 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments: will update family daily
   Code status: Full code
   Disposition :ICU
   Total time spent: 36 minutes
   Patient is critically ill

2184-03-25 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2184-3-24**] 01:39 PM
 URINE CULTURE - At [**2184-3-24**] 01:39 PM
 SPUTUM CULTURE - At [**2184-3-24**] 01:40 PM
   - negative 2.5L & lasix gtt was decreased to 3cc/hr
   - weaned down to PEEP of 10 & FiO2 at 40%
   - pm lytes showed rise in Na & Cl, started free water boluses with TF
   - sbp dipped to low 90s in am, Lasix gtt stopped & 250cc bolus given,
   BP came up to 120/60
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2184-3-22**] 09:56 AM
   Acyclovir - [**2184-3-22**] 12:09 PM
   Voriconazole - [**2184-3-23**] 12:09 AM
   Vancomycin - [**2184-3-23**] 09:59 AM
   Atovaquone - [**2184-3-23**] 08:00 PM
   Meropenem - [**2184-3-25**] 06:09 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-3-25**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.6
C (99.6
   HR: 84 (71 - 87) bpm
   BP: 100/47(64) {94/47(63) - 129/85(98)} mmHg
   RR: 20 (7 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,072 mL
                                                                    889 mL
   PO:
             TF:
                                                                    509 mL
                                                                    208 mL
   IVF:
                                                                  1,127 mL
                                                                    601 mL
   Blood products:
   Total out:
                                                                  4,475 mL
                                                                  1,360 mL
   Urine:
                                                                  4,475 mL
                                                                  1,360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,403 mL
                                                                   -471 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   SpO2: 96%
   ABG: 7.40/43/85.[**Numeric Identifier 128**]/27/0
   Ve: 11.7 L/min
   PaO2 / FiO2: 213
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Wheezes : , No(t) Diminished: , Rhonchorous: ), coarse with vent
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice, grayish color
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   55 K/uL
   9.9 g/dL
   92 mg/dL
   2.0 mg/dL
   27 mEq/L
   4.9 mEq/L
   89 mg/dL
   114 mEq/L
   148 mEq/L
   31.6 %
   4.6 K/uL
        [image002.jpg]
                             [**2184-3-23**]  09:30 AM
                             [**2184-3-23**]  01:28 PM
                             [**2184-3-23**]  04:40 PM
                             [**2184-3-24**]  05:51 AM
                             [**2184-3-24**]  06:13 AM
                             [**2184-3-24**]  01:22 PM
                             [**2184-3-24**]  05:34 PM
                             [**2184-3-24**]  05:43 PM
                             [**2184-3-25**]  05:20 AM
                             [**2184-3-25**]  05:42 AM
   WBC
   4.0
   4.1
   4.6
   Hct
   30.4
   30.4
   31.6
   Plt
   49
   55
   55
   Cr
   2.5
   2.4
   2.2
   2.0
   TCO2
   24
   24
   24
   27
   25
   28
   Glucose
   152
   120
   145
   92
   Other labs: PT / PTT / INR:14.2/26.9/1.2, CK / CKMB /
   Troponin-T:[**12-14**]/<0.01, ALT / AST:31/59, Alk Phos / T Bili:90/0.2,
   Differential-Neuts:52.5 %, Lymph:41.0 %, Mono:5.7 %, Eos:0.4 %, Lactic
   Acid:1.3 mmol/L, Albumin:2.5 g/dL, LDH:156 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   52 y/o male with h/o AML, now day #127 s/p cord blood transplant who
   presents with acute respiratory failure/ARDS.
 ACUTE RESPIRATORY DISTRESS SYNDROME: Diff Dx for ARDS includes
   viral/bacterial/fungal infection in chronically immunocomprimised pt
   likely c/b pulm edema [**2-14**] heart failure.  ECHO on adm showed LVEF at
   50%, it is unlikely that resp failure [**2-14**] pulm edema alone, but likely
   a secondary process c/b aggressive fluid resuscitation and ARF. Pt has
   been diuresing well on Lasix gtt.  s/p bronch on [**3-19**] with no remarkable
   findings, microbiology all negative to date.  Pt weaned down to PEEP of
   10 & oxygenating well.
   - continue to wean PEEP today, consider pressure support trial
   - continue broad spectrum Abx coverage Day [**8-22**] of  vanc,meropenem,
   voriconazole. (compl 5 days of Levo)
   - Influenza DFA negative, d/c
d tamiflu
   - PCP negative [**Name Initial (PRE) **] 2, continue atovaqone for PPx
   - steroid wean completed
   - f/u Viral swabs (RSV, Para, Adeno)
   - f/u blood cultures & urine cultures NGTD
   - CMV viral load pending, needs to be followed weekly
   - f/u bartonella cultures & glucan (galactomannin negative)
   - f/u BMT recs
   - goal i/os even to 500cc negative
 H/O LEUKEMIA, ACUTE s/p cord blood transplantation: AML currently day
   127 s/p transplant. Cyclosporine level was 141 yesterday, proceeded
   with pm dosing.  F/u am level & adjust pm dose according.
   - continue with daily cyclosporine level monitoring, dose per level
   with BMT recs
   - continue Cellcept, PPx with acyclovir, voriconazole
   - continue Atovaquone for PCP [**Name Initial (PRE) 1512**].
 RENAL FAILURE, ACUTE : Etiology unclear, possibly ATN in the setting
   of hypoperfusion vs drug toxicity.  Pt with resolving metabolic
   acidosis & intermittent hyperkalemia.  Pt having good UOP on Lasix gtt,
   now d/c
d. creatinine trending down.
   - urine lytes c/w pre-renal etiology, renal suggests cyclosporine
   toxicity as etiology for ARF
   - f/u [**Hospital1 **] lytes & renally dose all meds.  Hyperkalemia improved w/
   improved renal fxn and lasix gtt.
   - monitoring strict i/os with goal of even-500cc neg
   - Calcium replacement scales
   - Lanthanum phos binder
   >  HYEPRNATREMIA
 new onset, likely secondary to aggressive diuresis,
   though appears edematous, likely dry intravascularly given episode of
   hypotension while on lasix gtt
   - increase 250cc free water boluses to tid from [**Hospital1 **]
   - check pm lytes
 h/o ASPERGILLUS INFECTION: pt with h/o sinus aspergillosis, continue
   Voriconazole home regimen.
   -f/u glucan (EBV & galactomannin neg)
   -f/u BMT recs
Thrombocytopenia: stable at baseline
 Illeus: resolved, tolerating TF & residuals improved w/ reglan
   - stool studies pending (C.diff negative)
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2184-3-18**] 12:00 PM
   Arterial Line - [**2184-3-18**] 01:11 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2184-03-25 11:51:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Peep decreased to 10 with FiO2 40%
   Hydrated for hypernatremia
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Acyclovir - [**2184-3-22**] 12:09 PM
   Voriconazole - [**2184-3-23**] 12:09 AM
   Vancomycin - [**2184-3-23**] 09:59 AM
   Atovaquone - [**2184-3-23**] 08:00 PM
   Meropenem - [**2184-3-25**] 06:09 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-3-25**] 11:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 110 (71 - 110) bpm
   BP: 152/85(108) {94/47(63) - 152/85(108)} mmHg
   RR: 19 (7 - 21) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,072 mL
                                                                  1,334 mL
   PO:
             TF:
                                                                    509 mL
                                                                    208 mL
   IVF:
                                                                  1,127 mL
                                                                    767 mL
   Blood products:
   Total out:
                                                                  4,475 mL
                                                                  1,850 mL
   Urine:
                                                                  4,475 mL
                                                                  1,850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,403 mL
                                                                   -516 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.40/43/85.[**Numeric Identifier 128**]/27/0
   Ve: 10.7 L/min
   PaO2 / FiO2: 213
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: coarse sounds at bases, otherwise clear
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+, 3+ edema of UE
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   55 K/uL
   92 mg/dL
   2.0 mg/dL
   27 mEq/L
   4.9 mEq/L
   89 mg/dL
   114 mEq/L
   148 mEq/L
   31.6 %
   4.6 K/uL
        [image002.jpg]
                             [**2184-3-23**]  09:30 AM
                             [**2184-3-23**]  01:28 PM
                             [**2184-3-23**]  04:40 PM
                             [**2184-3-24**]  05:51 AM
                             [**2184-3-24**]  06:13 AM
                             [**2184-3-24**]  01:22 PM
                             [**2184-3-24**]  05:34 PM
                             [**2184-3-24**]  05:43 PM
                             [**2184-3-25**]  05:20 AM
                             [**2184-3-25**]  05:42 AM
   WBC
   4.0
   4.1
   4.6
   Hct
   30.4
   30.4
   31.6
   Plt
   49
   55
   55
   Cr
   2.5
   2.4
   2.2
   2.0
   TCO2
   24
   24
   24
   27
   25
   28
   Glucose
   152
   120
   145
   92
   Other labs: PT / PTT / INR:14.2/26.9/1.2, CK / CKMB /
   Troponin-T:[**12-14**]/<0.01, ALT / AST:31/59, Alk Phos / T Bili:90/0.2,
   Differential-Neuts:52.5 %, Lymph:41.0 %, Mono:5.7 %, Eos:0.4 %, Lactic
   Acid:1.3 mmol/L, Albumin:2.5 g/dL, LDH:156 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   52 yo male with h/o AML failed multiple chemo regimens, now day 126 s/p
   cord blood transplant, with h/o aspergillosis, bacillary angiomatosis &
   cardiomyopathy who presents with acute respiratory failure.
   1. Resp failure with ARDS:  CXR continues to show bilateral infiltrates
   and effusions, no change from yesterday but decreased fiO2. Will
   decrease PEEP to 8 and wean to PSV if tolerated. Patient had bronch, w/
   no remarkable findings, microbiology pending. Will continue to diurese.
   2. ID: continue broad spectrum Abx coverage with vanc,meropenem,
   voriconazole. Agree with 10 day course. Non-neutropenic.
   - All cultures negative including influenza DFA.  Low suspicion for PCP
   with low LDH. On atovaq proph. Off solumedrol. Acyclovir proph was
   d/c
   3. AML: s/p cord blood transplantation: with no e/o active leukemia on
   D+100 bone marrow biopsy. Cyclosporine levels elevated on admission,
   dose decreased. On cellcept..
   4. ARF: creatinine much improved with good u/o. Acute on chronic renal
   failure.  Etiology unclear, urine sediment bland. Cyclosporin in
   setting of calcineuron inhibitor with baseline renal insufficiency may
   have contributed. Urine eos were negative x 2 & urine lytes [**3-18**] showed
   high sodium avidity.  Renal consult appreciated.
   5. Hx of aspergillus infection / sinus aspergillosis - on voriconazole
   home regimen.
   6. Thrombocytopenia: at baseline, ~50.
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:
   Lines: reviewed
   Multi Lumen - [**2184-3-18**] 12:00 PM
   Arterial Line - [**2184-3-18**] 01:11 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill
   ------ Protected Section ------
   Critical care time
 32 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 1140**] [**Last Name (NamePattern1) 1135**], MD
   on:[**2184-3-25**] 12:00 ------

2184-03-26 08:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.0
F - [**2184-3-25**] 09:00 PM
   -- have decreased PEEP over course of day from 10 to 8 to 5 and has
   tolerated well.
   -- subtherapeutic on cyclosporine, increased PM dose per BMT
   -- pan cultured again this am
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Vancomycin - [**2184-3-23**] 09:59 AM
   Atovaquone - [**2184-3-23**] 08:00 PM
   Voriconazole - [**2184-3-26**] 12:05 AM
   Meropenem - [**2184-3-26**] 05:56 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Fentanyl - [**2184-3-26**] 12:13 AM
   Other medications:
   Flowsheet Data as of  [**2184-3-26**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.6
C (101.5
   HR: 77 (77 - 110) bpm
   BP: 104/52(66) {99/50(64) - 152/85(108)} mmHg
   RR: 20 (19 - 20) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113 kg (admission): 115 kg
             Total In:
                                                                  3,546 mL
                                                                  1,621 mL
   PO:
             TF:
                                                                    834 mL
                                                                    307 mL
   IVF:
                                                                  1,443 mL
                                                                    384 mL
   Blood products:
   Total out:
                                                                  4,860 mL
                                                                  1,035 mL
   Urine:
                                                                  4,860 mL
                                                                  1,035 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,314 mL
                                                                    586 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 18 cmH2O
   Plateau: 16 cmH2O
   SpO2: 92%
   ABG: 7.43/43/69/27/3
   Ve: 11.1 L/min
   PaO2 / FiO2: 138
   Physical Examination
   GEN: NAD, opening eyes, face still ruddy
   CV: RRR no m/r/g
   RESP: CTAB no w/r  (hickman site no erythema/fluctuance)
   ABD: soft, NT/ND/NABS
   EXTR: trace to +1 pitting edema
   Labs / Radiology
   44 K/uL
   9.0 g/dL
   129 mg/dL
   1.5 mg/dL
   27 mEq/L
   4.8 mEq/L
   74 mg/dL
   112 mEq/L
   145 mEq/L
   29.2 %
   3.6 K/uL
        [image002.jpg]
                             [**2184-3-24**]  01:22 PM
                             [**2184-3-24**]  05:34 PM
                             [**2184-3-24**]  05:43 PM
                             [**2184-3-25**]  05:20 AM
                             [**2184-3-25**]  05:42 AM
                             [**2184-3-25**]  01:10 PM
                             [**2184-3-25**]  05:52 PM
                             [**2184-3-25**]  09:05 PM
                             [**2184-3-26**]  04:57 AM
                             [**2184-3-26**]  05:00 AM
   WBC
   4.1
   4.6
   3.6
   Hct
   30.4
   31.6
   29.2
   Plt
   55
   55
   44
   Cr
   2.2
   2.0
   1.5
   TCO2
   27
   25
   28
   28
   28
   30
   29
   Glucose
   145
   92
   129
   Other labs: PT / PTT / INR:14.2/26.9/1.2, CK / CKMB /
   Troponin-T:[**12-14**]/<0.01, ALT / AST:31/59, Alk Phos / T Bili:90/0.2,
   Differential-Neuts:52.5 %, Lymph:41.0 %, Mono:5.7 %, Eos:0.4 %, Lactic
   Acid:1.3 mmol/L, Albumin:2.5 g/dL, LDH:156 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Microbiology: DFA neg
   Crypto Neg
   Legionnella Neg
   PCP neg
   [**Name Initial (PRE) **] Diff Neg
   Sputums NGTD
   CMV pending
   EBV pending
   Glucan & Galactomannin neg
   Rapid Viral Screen & Viral Cx NGTD
   Adeno, HHV-6 negative
   & EBV has been +IgG in past
   [**2184-3-22**] 4:47 am STOOL     CONSISTENCY: SOFT
      MICROSPORIDIA STAIN (Final [**2184-3-22**]):    NO MICROSPORIDIUM SEEN.
      CYCLOSPORA STAIN (Final [**2184-3-22**]):    NO CYCLOSPORA SEEN.
      Cryptosporidium/Giardia (DFA) (Final [**2184-3-22**]):
         NO CRYPTOSPORIDIUM OR GIARDIA SEEN.
      CLOSTRIDIUM DIFFICILE TOXIN ASSAY (Final [**2184-3-22**]):
         FECES NEGATIVE FOR C. DIFFICILE TOXIN BY EIA.
              (Reference Range-Negative).
      VIRAL CULTURE (Preliminary):    No Virus isolated so far.
   [**2184-3-18**] 1:11 pm SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2184-3-19**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
         SMEAR REVIEWED; RESULTS CONFIRMED.
      RESPIRATORY CULTURE (Final [**2184-3-22**]):
         RARE GROWTH OROPHARYNGEAL FLORA.  MSSA +
      FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
   Assessment and Plan
   52 y/o male with h/o AML, now day #128 s/p cord blood transplant who
   p/w acute respiratory failure/ARDS, new fevers
 ACUTE RESPIRATORY DISTRESS SYNDROME: Etiology unclear, all infectious
   work up unrevealing to date, pt immunocomprimised & presented with
   volume overload & ARF, unlikely that resp failure [**2-14**] pulm edema
   alone.   Pt has been diuresing well and weaned to PEEP of 5 yesterday,
   though pO2 69 now despite inc fiO2 to 50%.   Pt was febrile to 102
   overnight, pancultured, all cultures NGTD.
   - recheck ABG later today after inc of PEEP to 10
   - repeated blood/urine/sputum cx
   - continue broad spectrum Abx coverage Day [**9-22**] of  vanc,meropenem,
   voriconazole. (starting Levo & Flagyl today)
   - PCP negative [**Name Initial (PRE) **] 2, continue atovaqone for PPx
   - f/u blood, urine & bartonella cultures
   - f/u BMT recs
   - goal i/os 500 to 1L negative
 ID: Pt spiked fever to 102 overnight & was pan cultured, repeated
   cultures this am as fever continues.  Hickman line site non-tender, no
   erythema.  CXR does not show any new infiltrate.  Other possible source
   include DVT/PE, sinuses & C. diff  though first toxin was negative &
   all stool cultures neg to date.
   - continue Vanc, Meropenem, Voriconazole, Acyclovir & Atovaquone
   - start Levofloxacin & Flagyl today
   - f/u head CT today to evaluate sinuses given h/o aspergillosis (but
   glucan/galactomannin neg)
   - f/u chest CT to r/o loculated effusion or fluid pocket around
   hickman.
   - f/u lower extremity dopplers to r/o DVT
   - f/u cultures
 H/O LEUKEMIA, ACUTE s/p cord blood transplantation for AML currently
   day 128 s/p transplant.
   - f/u am cyclosporine level, goal of 150-200 (increased pm dose on [**3-25**]
   due to sub therapeutic am level )
   - continue Cellcept,  Acyclovir & Voriconazole & Atovaquone PPx
   - f/u CMV viral load (no need for EBV, known to be EBV IG+)
 RENAL FAILURE, ACUTE : likely [**2-14**] ATN in setting of hypotension vs
   drug toxicity.  Pt with resolving metabolic acidosis & hyperkalemia.
   Pt continues to have good UOP with Lasix diuresis & creatinine trending
   down.
   - f/u [**Hospital1 **] lytes & renally dose all meds.
   - monitoring strict i/os with goal of  negative 500 to 1L negative
   - Calcium replacement scales
   - Lanthanum phos binder
 h/o ASPERGILLUS INFECTION: h/o sinus aspergillosis, on Voriconazole
   home regimen. Glucan & galactomannin neg
   -f/u head CT today to r/o recurrent infection given new fevers
   -f/u BMT recs
Thrombocytopenia: stable at baseline
   ICU Care
   Nutrition: Nutren Renal (Full) - [**2184-3-26**] 03:44 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines: Multi Lumen - [**2184-3-18**] 12:00 PM
   Arterial Line - [**2184-3-18**] 01:11 PM
   Prophylaxis:  DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Code status: Full code
   Disposition: ICU

2184-03-26 11:24:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Temp 102 last night.
   Cyclosporine redosed.
   Pancultured.
   negative 1.3 L / 24 hrs
   Peep and FiO2 increased in response to pO2 68.
   Patient unable to provide history: intubated
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Atovaquone - [**2184-3-23**] 08:00 PM
   Voriconazole - [**2184-3-26**] 12:05 AM
   Meropenem - [**2184-3-26**] 05:56 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Fentanyl - [**2184-3-26**] 12:13 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-3-26**] 11:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.6
C (101.4
   HR: 83 (77 - 88) bpm
   BP: 109/57(72) {99/50(64) - 140/72(92)} mmHg
   RR: 20 (20 - 20) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113 kg (admission): 115 kg
             Total In:
                                                                  3,546 mL
                                                                  1,943 mL
   PO:
             TF:
                                                                    834 mL
                                                                    437 mL
   IVF:
                                                                  1,443 mL
                                                                    516 mL
   Blood products:
   Total out:
                                                                  4,860 mL
                                                                  1,525 mL
   Urine:
                                                                  4,860 mL
                                                                  1,525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,314 mL
                                                                    418 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 24 cmH2O
   Plateau: 16 cmH2O
   SpO2: 93%
   ABG: 7.42/44/68/27/3
   Ve: 9.4 L/min
   PaO2 / FiO2: 136
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   ant/lat)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed, eyes open spontaneously
   Labs / Radiology
   9.0 g/dL
   44 K/uL
   129 mg/dL
   1.5 mg/dL
   27 mEq/L
   4.8 mEq/L
   74 mg/dL
   112 mEq/L
   145 mEq/L
   29.2 %
   3.6 K/uL
        [image002.jpg]
                             [**2184-3-24**]  05:34 PM
                             [**2184-3-24**]  05:43 PM
                             [**2184-3-25**]  05:20 AM
                             [**2184-3-25**]  05:42 AM
                             [**2184-3-25**]  01:10 PM
                             [**2184-3-25**]  05:52 PM
                             [**2184-3-25**]  09:05 PM
                             [**2184-3-26**]  04:57 AM
                             [**2184-3-26**]  05:00 AM
                             [**2184-3-26**]  09:16 AM
   WBC
   4.1
   4.6
   3.6
   Hct
   30.4
   31.6
   29.2
   Plt
   55
   55
   44
   Cr
   2.2
   2.0
   1.5
   TCO2
   25
   28
   28
   28
   30
   29
   30
   Glucose
   145
   92
   129
   Other labs: PT / PTT / INR:14.2/26.9/1.2, CK / CKMB /
   Troponin-T:[**12-14**]/<0.01, ALT / AST:31/59, Alk Phos / T Bili:90/0.2,
   Differential-Neuts:52.5 %, Lymph:41.0 %, Mono:5.7 %, Eos:0.4 %, Lactic
   Acid:1.1 mmol/L, Albumin:2.5 g/dL, LDH:156 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Microbiology: All cx negative
   CMV pending
   Galactomanin neg
   Cdiff neg
   Assessment and Plan
   52 yo male with h/o AML failed multiple chemo regimens, now day 128 s/p
   cord blood transplant, with h/o aspergillosis, bacillary angiomatosis &
   cardiomyopathy who presents with acute respiratory failure.
   1. Resp failure with ARDS:  CXR improved overall but continues to have
   O2/peep requirements. Bronch w/ no remarkable findings, microbiology
   negative. Will continue to keep even to negative.
   2. Fever/ ID: continue broad spectrum Abx coverage with vanc,
   meropenem. On home dose voriconazole. Non-neutropenic. Cultures
   negative, cdiff pending. Would consider adding back atypical coverage.
   Reasonable to start empiric flagyl while cdiff pending. Low suspicion
   for PCP with low LDH. On atovaq proph. Off solumedrol. Acyclovir proph.
   CXR not c/w VAP. Line does not look infected. Agree with head CT to
   check sinuses.  Will add chest CT looking at parenchyma, effusions. F/u
   on all cultures.
   3. AML: s/p cord blood transplantation: with no e/o active leukemia on
   D+100 bone marrow biopsy. Cyclosporine levels elevated on admission,
   dose decreased. On cellcept.
   4. ARF: creatinine much improved with good u/o. Acute on chronic renal
   failure.  Etiology unclear, urine sediment bland. Cyclosporin in
   setting of calcineuron inhibitor with baseline renal insufficiency may
   have contributed. Urine eos were negative x 2 & urine lytes [**3-18**] showed
   high sodium avidity.  Renal input appreciated.
   5. Hx of aspergillus infection / sinus aspergillosis - on voriconazole
   home regimen.
   6. Thrombocytopenia: at baseline, ~50.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2184-3-26**] 03:44 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2184-3-18**] 12:00 PM
   Arterial Line - [**2184-3-18**] 01:11 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments: wife updated
   [**Name2 (NI) 66**] status: Full code
   Disposition :ICU
   Total time spent: 36 min critical care time minutes
   Patient is critically ill

2184-03-27 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2184-3-26**] 09:59 AM
 FEVER - 101.6
F - [**2184-3-26**] 12:00 PM
   - started on flagyl and Levaquin for persistent fevers
   - Head CT showed evidence of sinusitis
   - Chest CT showed evidence of multifocal PNA
   - LENI's negative for DVT
   - given 100mg IV lasix x1
   - cyclosporine level 110 so dose increased to 50mg [**Hospital1 **]
   Pt opening eyes & responding to commands today
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Voriconazole - [**2184-3-26**] 12:05 AM
   Levofloxacin - [**2184-3-26**] 02:30 PM
   Meropenem - [**2184-3-26**] 10:00 PM
   Infusions:
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2184-3-26**] 12:00 PM
   Other medications:
   Flowsheet Data as of  [**2184-3-27**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.2
C (100.8
   HR: 74 (74 - 88) bpm
   BP: 100/55(70) {86/50(62) - 116/63(79)} mmHg
   RR: 20 (19 - 21) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113 kg (admission): 115 kg
             Total In:
                                                                  2,773 mL
                                                                    169 mL
   PO:
             TF:
                                                                    320 mL
   IVF:
                                                                  1,242 mL
                                                                    139 mL
   Blood products:
   Total out:
                                                                  3,175 mL
                                                                    590 mL
   Urine:
                                                                  3,175 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -402 mL
                                                                   -421 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 22 cmH2O
   Plateau: 21 cmH2O
   SpO2: 93%
   ABG: 7.44/42/80.[**Numeric Identifier 248**]/26/3
   Ve: 10.5 L/min
   PaO2 / FiO2: 160
   Physical Examination
   GEN: NAD, ruddy, opening eyes
   HEENT: intubated, supple neck
   CV: RRR no m/r/g
   RESP: clear anteriorly, no w/r
   ABD: soft, NT/ND, NABS
   EXTR: trace to +1 edema, upper >lower extr
   Labs / Radiology
   CT HEAD:
   IMPRESSION:
   1.  Interval development of air-fluid level within the left sphenoid si
   nus and
   interval opacification of the mastoid air cells are concerning for infe
   ction.
   The mucosal thickening of the remainder of the sinuses appear unchanged
   CT CHEST:
   IMPRESSION:
   1.  Patchy multifocal opacities consistent with pneumonia.
   2.  Moderate bilateral pleural effusions and bilateral lower lobe atele
   ctasis.
   3.  No evidence of pulmonary edema.  Small amount of pericardial fluid
   and
   ascites.
   40 K/uL
   10.0 g/dL
   103 mg/dL
   1.3 mg/dL
   26 mEq/L
   5.1 mEq/L
   65 mg/dL
   112 mEq/L
   146 mEq/L
   31.4 %
   4.8 K/uL
        [image002.jpg]
                             [**2184-3-25**]  05:42 AM
                             [**2184-3-25**]  01:10 PM
                             [**2184-3-25**]  05:52 PM
                             [**2184-3-25**]  09:05 PM
                             [**2184-3-26**]  04:57 AM
                             [**2184-3-26**]  05:00 AM
                             [**2184-3-26**]  09:16 AM
                             [**2184-3-26**]  05:05 PM
                             [**2184-3-27**]  05:00 AM
                             [**2184-3-27**]  05:16 AM
   WBC
   3.6
   4.8
   Hct
   29.2
   31.4
   Plt
   44
   40
   Cr
   1.5
   1.3
   TCO2
   28
   28
   28
   30
   29
   30
   30
   29
   Glucose
   129
   103
   Other labs: PT / PTT / INR:15.3/34.7/1.4, CK / CKMB /
   Troponin-T:[**12-14**]/<0.01, ALT / AST:33/41, Alk Phos / T Bili:77/0.7,
   Differential-Neuts:64.6 %, Lymph:20.3 %, Mono:9.8 %, Eos:5.1 %, Lactic
   Acid:1.1 mmol/L, Albumin:2.8 g/dL, LDH:159 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   [**3-18**]  & [**3-19**] Viral Cutlure NGTD
   [**3-18**] Sputum + MSSA thought to be oral flora
   [**3-18**] Crypto neg
   DFA Neg, PCP neg [**Name Initial (PRE) **] 2
   Blood Cx NGTD, Urine Cx NGTD
   Stool Studies all neg to date (micro/cyclo/campylo/viral NGTD)
   C Diff Neg X 2.
 [**2184-3-19**] 2:54 pm BRONCHOALVEOLAR LAVAGE
   GRAM STAIN (Final [**2184-3-19**]):
      2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
   NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Final [**2184-3-21**]):    NO GROWTH.
   LEGIONELLA CULTURE (Final [**2184-3-26**]):    NO LEGIONELLA ISOLATED.
   Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
      [**2184-3-21**]):
      NEGATIVE for Pneumocystis jirvovecii (carinii).
      REPORTED BY PHONE TO DR.[**Last Name (STitle) 1498**] [**2184-3-21**] AT 13:10.
   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
   ACID FAST SMEAR (Final [**2184-3-22**]):
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR.
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.
   Assessment and Plan
   52 y/o male with h/o AML, now day #129 s/p cord blood transplant who
   p/w acute respiratory failure/ARDS, new fevers
 ACUTE RESPIRATORY DISTRESS SYNDROME: Etiology unclear, all infectious
   work up unrevealing to date, pt immunocomprimised & presented with
   volume overload & ARF, unlikely that resp failure [**2-14**] pulm edema
   alone.   Pt has been diuresing well but continues to be febrile >
   48hrs, pancultured, all cultures NGTD.  CT suggests multifocal PNA,
   sputum neg to date.  Will consider bronch with BAL later today.
   - attempt to wean PEEP today
   - f/u blood/urine/sputum cx
   - continue Abx- Day 10 Vanc/Meropenem, day 2 Levofloxacin & Flagyl,
   home reg Acyclovir & Atovaquone, Voriconazole
   - PCP negative [**Name Initial (PRE) **] 2, continue atovaqone for PPx
   - f/u blood, urine & bartonella cultures
   - f/u BMT recs
   - goal i/os even to 500cc negative
   - consider bronch today
 ID: Pt spiked fever to 102 on [**3-25**] and has been intermittently
   febrile since.  Hickman line site non-tender, no erythema.  CXR does
   not show any new infiltrate.  LE Dopplers neg for DVT, CT suggests e/o
   sinusitis & multifocal PNA. C. diff has been negative x2 & all stool
   cultures neg to date. Glucan/galactomannin neg
   - continue Day 10 Vanc/Meropenem, day 2 Levofloxacin & Flagyl, home reg
   Acyclovir & Atovaquone, Voriconazole
   - f/u cultures
   - consider bronch later today with BAL
 H/O LEUKEMIA, ACUTE s/p cord blood transplantation for AML currently
   day 129 s/p transplant.
   - f/u am cyclosporine level, goal of 150-200 (adjust dosing prn)
   - continue Cellcept,  Acyclovir & Voriconazole & Atovaquone PPx
   - f/u CMV viral load (no need for EBV, known to be EBV IG+)
 RENAL FAILURE, ACUTE : Resolving, likely [**2-14**] ATN in setting of
   hypotension vs drug toxicity.  Pt with resolving metabolic acidosis &
   mild hyperkalemia at 5.2.  Pt continues to have good UOP with Lasix
   diuresis & creatinine has returned to baseline
   - monitoring strict i/os with goal of even to neg 500cc/day
   - now that renal function normalized, dose Vancomycin 1gram [**Hospital1 **], f/u am
   level
   - Calcium replacement scales
   - Lanthanum phos binder
 h/o ASPERGILLUS INFECTION: h/o sinus aspergillosis, on Voriconazole
   home regimen. Glucan & galactomannin neg. New fever, Head CT on [**3-26**]
   reported L sphenoid sinusitis, d/w ENT, very subtle & nothing to drain.
   -continue Voriconazole 400mg [**Hospital1 **]
   -f/u BMT recs
Thrombocytopenia: trended down slightly but essentially stable at
   baseline
   - monitor daily
   ICU Care
   Nutrition: Nutren Renal 40cc/hr
   Glycemic Control:  Regular insulin sliding scale
   Lines: Multi Lumen - [**2184-3-18**] 12:00 PM
   Arterial Line - [**2184-3-18**] 01:11 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Code status: Full code
   Disposition:ICU

2184-03-27 12:14:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52 yo man with AML s/p cord blood tx, complicated post-transplant
   course including bacillary angiomatosis, acute appendicitis , and
   aspergillus sinusitis, here with respiratory failure of unclear
   etiology
   24 Hour Events:
   Fever to 101.6 at noon yesterday
   Started on levoflox/flagyl
   CT with evidence of sinusitis
   CT chest with multifocal pna
   LENIS neg for DVTs
 BLOOD CULTURED - At [**2184-3-26**] 09:59 AM
 FEVER - 101.6
F - [**2184-3-26**] 12:00 PM
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Voriconazole - [**2184-3-26**] 12:05 AM
   Levofloxacin - [**2184-3-26**] 02:30 PM
   Meropenem - [**2184-3-27**] 06:17 AM
   Vancomycin - [**2184-3-27**] 08:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2184-3-26**] 12:00 PM
   Other medications:
   [**Last Name (un) 1635**], Cellcept, Lanthanum, Lansoprazole, atovaquone, folate, acyclovir,
   cyclosporin, flagyl
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-3-27**] 12:14 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 36.9
C (98.4
   HR: 73 (72 - 88) bpm
   BP: 124/70(87) {86/50(62) - 141/75(96)} mmHg
   RR: 20 (19 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113 kg (admission): 115 kg
             Total In:
                                                                  2,773 mL
                                                                  1,176 mL
   PO:
             TF:
                                                                    320 mL
                                                                     76 mL
   IVF:
                                                                  1,242 mL
                                                                    611 mL
   Blood products:
   Total out:
                                                                  3,175 mL
                                                                    800 mL
   Urine:
                                                                  3,175 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -402 mL
                                                                    376 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   Plateau: 20 cmH2O
   SpO2: 93%
   ABG: 7.44/42/80
   Ve: 10.6 L/min
   PaO2 / FiO2: 160
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   40 K/uL
   103 mg/dL
   1.3 mg/dL
   26 mEq/L
   5.1 mEq/L
   65 mg/dL
   112 mEq/L
   146 mEq/L
   31.4 %
   4.8 K/uL
        [image002.jpg]
                             [**2184-3-25**]  05:42 AM
                             [**2184-3-25**]  01:10 PM
                             [**2184-3-25**]  05:52 PM
                             [**2184-3-25**]  09:05 PM
                             [**2184-3-26**]  04:57 AM
                             [**2184-3-26**]  05:00 AM
                             [**2184-3-26**]  09:16 AM
                             [**2184-3-26**]  05:05 PM
                             [**2184-3-27**]  05:00 AM
                             [**2184-3-27**]  05:16 AM
   WBC
   3.6
   4.8
   Hct
   29.2
   31.4
   Plt
   44
   40
   Cr
   1.5
   1.3
   TCO2
   28
   28
   28
   30
   29
   30
   30
   29
   Glucose
   129
   103
   Other labs: PT / PTT / INR:15.3/34.7/1.4, CK / CKMB /
   Troponin-T:[**12-14**]/<0.01, ALT / AST:33/41, Alk Phos / T Bili:77/0.7,
   Differential-Neuts:64.6 %, Lymph:20.3 %, Mono:9.8 %, Eos:5.1 %, Lactic
   Acid:1.1 mmol/L, Albumin:2.8 g/dL, LDH:159 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Imaging: CT sinus: L sphenoid air-fluid level
   CT chest: Bibasilar infiltrates, scattered areas of ground glass, mod
   b/l effusions
   Assessment and Plan
   52 yo man with AML s/p cord blood tx, complicated post-transplant
   course including bacillary angiomatosis, acute appendicitis , and
   aspergillus sinusitis, here with respiratory failure of unclear
   etiology
   Respiratory Failure: Has had some increase in vent requirements,
   specifically PEEP in setting of fever.  Will try to bring down PEEP as
   tolerates. Will perform bronch/ BAL today given fevers/ intermittent
   mucus plugs today with desturation.
   Fever: CT scan with new infiltrates on CXR, also with sphenoid process
   on sinus CT.  has been on levo/flagy/vanc/[**Last Name (un) 430**] for several days.  Has
   also been on voriconazole.  Will ask ENT to comment on sinus CT
   findings - not impressive to our brief review.  Will reculture.
   AML: Follow Cy A levels.  Cont atovaqone, acyclovir
   Renal Failire: Resolving and u/o remains good
   Thrombocytopenia: near baseline
   Sedation: Wean Versed gtt. Cont Fentanyl gtt.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2184-3-27**] 08:00 AM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2184-3-18**] 12:00 PM
   Arterial Line - [**2184-3-18**] 01:11 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2184-03-28 08:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - cyclosporine level low at 129, increased to 75mcg [**Hospital1 **]
   - desatted briefly ?possibly due to mucus plugging
   - bronchoscopy revealed normal airways, BAL sent
   - continued low grade fevers, pancultured
   - C.diff neg, stool Cx neg to date
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Voriconazole - [**2184-3-26**] 12:05 AM
   Levofloxacin - [**2184-3-27**] 02:00 PM
   Meropenem - [**2184-3-27**] 02:00 PM
   Vancomycin - [**2184-3-27**] 08:00 PM
   Infusions:
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-3-28**] 08:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.8
C (98.3
   HR: 69 (69 - 83) bpm
   BP: 101/57(71) {90/48(60) - 141/75(96)} mmHg
   RR: 20 (20 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.2 kg (admission): 115 kg
             Total In:
                                                                  2,643 mL
                                                                    157 mL
   PO:
             TF:
                                                                    250 mL
   IVF:
                                                                  1,313 mL
                                                                    157 mL
   Blood products:
   Total out:
                                                                  1,430 mL
                                                                    205 mL
   Urine:
                                                                  1,430 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,213 mL
                                                                    -48 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   SpO2: 97%
   ABG: 7.43/41/86/26/2
   Ve: 11.5 L/min
   PaO2 / FiO2: 172
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), S3, S4
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: B/L UE swelling
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   35 K/uL
   8.9 g/dL
   91 mg/dL
   1.3 mg/dL
   26 mEq/L
   4.7 mEq/L
   55 mg/dL
   112 mEq/L
   144 mEq/L
   27.7 %
   4.3 K/uL
        [image002.jpg]
                             [**2184-3-26**]  09:16 AM
                             [**2184-3-26**]  05:05 PM
                             [**2184-3-27**]  05:00 AM
                             [**2184-3-27**]  05:16 AM
                             [**2184-3-27**]  05:12 PM
                             [**2184-3-27**]  05:25 PM
                             [**2184-3-27**]  07:04 PM
                             [**2184-3-27**]  10:18 PM
                             [**2184-3-28**]  04:10 AM
                             [**2184-3-28**]  04:20 AM
   WBC
   4.8
   4.3
   Hct
   31.4
   27.7
   Plt
   40
   35
   Cr
   1.3
   1.3
   1.3
   TCO2
   30
   30
   29
   29
   27
   30
   28
   Glucose
   103
   107
   91
   Other labs: PT / PTT / INR:15.9/33.6/1.4, CK / CKMB /
   Troponin-T:[**12-14**]/<0.01, ALT / AST:33/41, Alk Phos / T Bili:77/0.7,
   Differential-Neuts:64.6 %, Lymph:20.3 %, Mono:9.8 %, Eos:5.1 %, Lactic
   Acid:1.1 mmol/L, Albumin:2.8 g/dL, LDH:159 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Imaging: CXR:  A portion of the left lung has been omitted from the
   study.  There is no
   appreciable change since the prior study.  Endotracheal tube terminates
   at the
   thoracic inlet.  Nasogastric tube courses towards the stomach but the
   tip is
   not seen.
   There is a small left pleural effusion as well as atelectasis at the
   left
   base.  There is interval mild improvement of the right pleural
   effusion.
   Cardiomediastinal silhouette is somewhat prominent.  Left subclavian
   catheter
   terminates at the superior vena cava.
   Microbiology: Repeat BAL:
   GRAM STAIN (Final [**2184-3-27**]):
         1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Pending):
      LEGIONELLA CULTURE (Pending):
      Immunoflourescent test for Pneumocystis jirovecii (carinii)
   (Pending):
      FUNGAL CULTURE (Pending):
      ACID FAST SMEAR (Pending):
      ACID FAST CULTURE (Pending):
      VIRAL CULTURE (Pending):
      VIRAL CULTURE: R/O
   CYTOMEGALOVIRUS (Pending):
   DFA pending
   Assessment and Plan
   52 y/o male with h/o AML, now day #130 s/p cord blood transplant who
   p/w acute respiratory failure/ARDS, new fevers
 ACUTE RESPIRATORY DISTRESS SYNDROME: Etiology unclear, all infectious
   work up unrevealing to date, pt immunocomprimised & presented with
   volume overload & ARF, unlikely that resp failure [**2-14**] pulm edema
   alone.   Pt has been diuresing well but continues to be febrile >
   48hrs, pancultured, all cultures NGTD.  CT suggests multifocal PNA,
   sputum neg to date.  Patient had bronch yesterday, micro pending
   - attempt to wean PEEP today
   - f/u blood/urine/sputum cx and BAL
   - continue Abx- Day 11 Vanc/Meropenem, day 3 Levofloxacin & Flagyl,
   home reg Acyclovir & Atovaquone, Voriconazole
   - PCP negative [**Name Initial (PRE) **] 2, continue atovaqone for PPx
   - f/u blood, urine & bartonella cultures
   - f/u BMT recs
   - goal i/os 500cc negative
 ID: Pt spiked fever to 102 on [**3-25**] and has been intermittently
   febrile since.  Hickman line site non-tender, no erythema.  CXR does
   not show any new infiltrate.  LE Dopplers neg for DVT, CT suggests e/o
   sinusitis & multifocal PNA. C. diff has been negative x2 & all stool
   cultures neg to date. Glucan/galactomannin neg
   - continue Day 11 Vanc/Meropenem, day 3 Levofloxacin & Flagyl, home reg
   Acyclovir & Atovaquone, Voriconazole
   - f/u cultures
 H/O LEUKEMIA, ACUTE s/p cord blood transplantation for AML currently
   day 130 s/p transplant.
   - f/u am cyclosporine level, goal of 150-200 (adjust dosing prn), dose
   increased yesterday to 75mg q12h
   - continue Cellcept,  Acyclovir & Voriconazole & Atovaquone PPx
   - f/u CMV viral load and EBV viral load (negative)
 RENAL FAILURE, ACUTE : Resolving, likely [**2-14**] ATN in setting of
   hypotension vs drug toxicity.  Pt with resolving metabolic acidosis &
   mild hyperkalemia at 5.2.  Pt continues to have good UOP with Lasix
   diuresis & creatinine has returned to baseline
   - monitoring strict i/os with goal of even to neg 500cc/day
   - now that renal function normalized, dose Vancomycin 1gram [**Hospital1 **], f/u am
   level
   - Calcium replacement scales
   - Lanthanum phos binder
 h/o ASPERGILLUS INFECTION: h/o sinus aspergillosis, on Voriconazole
   home regimen. Glucan & galactomannin neg. New fever, Head CT on [**3-26**]
   reported L sphenoid sinusitis, d/w ENT, very subtle & nothing to drain.
   -continue Voriconazole 400mg [**Hospital1 **]
   -f/u BMT recs
Thrombocytopenia: trended down slightly but essentially stable at
   baseline
   - monitor daily
   ICU Care
   Nutrition:
   Comments: TF
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2184-3-18**] 12:00 PM
   Arterial Line - [**2184-3-18**] 01:11 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2184-03-28 11:43:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52 yo man with AML s/p cord blood tx, complicated post-transplant
   course including bacillary angiomatosis, acute appendicitis , and
   aspergillus sinusitis, here with respiratory failure of unclear
   etiology
   24 Hour Events:
   Cyclosponin increased
   Bronched yesterday - BAL pending
   Low-grade temps
   Desat with PEEP lowing to 8 --> back up to 10
   History obtained from Medical records, ICU team
   Patient unable to provide history: Sedated
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Voriconazole - [**2184-3-26**] 12:05 AM
   Levofloxacin - [**2184-3-27**] 02:00 PM
   Meropenem - [**2184-3-27**] 02:00 PM
   Vancomycin - [**2184-3-28**] 08:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Other medications:
   [**Last Name (un) 1635**], Cellcept, Lantunum, Lansoprazole, RISS, Atovaqone, Folate, ACV,
   Flagyl, Cyclosporin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-3-28**] 11:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.3
C (97.4
   HR: 72 (68 - 83) bpm
   BP: 109/55(71) {90/47(60) - 129/72(90)} mmHg
   RR: 20 (19 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.2 kg (admission): 115 kg
             Total In:
                                                                  2,643 mL
                                                                    679 mL
   PO:
             TF:
                                                                    250 mL
   IVF:
                                                                  1,313 mL
                                                                    419 mL
   Blood products:
   Total out:
                                                                  1,430 mL
                                                                    505 mL
   Urine:
                                                                  1,430 mL
                                                                    505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,213 mL
                                                                    174 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 22 cmH2O
   Plateau: 21 cmH2O
   SpO2: 95%
   ABG: 7.43/41/55 (PEEP of 8)
   Ve: 11 L/min
   PaO2 / FiO2: 110
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   35 K/uL
   91 mg/dL
   1.3 mg/dL
   26 mEq/L
   4.7 mEq/L
   55 mg/dL
   112 mEq/L
   144 mEq/L
   27.7 %
   4.3 K/uL
        [image002.jpg]
                             [**2184-3-26**]  05:05 PM
                             [**2184-3-27**]  05:00 AM
                             [**2184-3-27**]  05:16 AM
                             [**2184-3-27**]  05:12 PM
                             [**2184-3-27**]  05:25 PM
                             [**2184-3-27**]  07:04 PM
                             [**2184-3-27**]  10:18 PM
                             [**2184-3-28**]  04:10 AM
                             [**2184-3-28**]  04:20 AM
                             [**2184-3-28**]  09:03 AM
   WBC
   4.8
   4.3
   Hct
   31.4
   27.7
   Plt
   40
   35
   Cr
   1.3
   1.3
   1.3
   TCO2
   30
   29
   29
   27
   30
   28
   28
   Glucose
   103
   107
   91
   Other labs: PT / PTT / INR:15.9/33.6/1.4, CK / CKMB /
   Troponin-T:[**12-14**]/<0.01, ALT / AST:33/41, Alk Phos / T Bili:77/0.7,
   Differential-Neuts:64.6 %, Lymph:20.3 %, Mono:9.8 %, Eos:5.1 %, Lactic
   Acid:1.1 mmol/L, Albumin:2.8 g/dL, LDH:159 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Fluid analysis / Other labs: BAL gram stain neg: all other studies
   negative
   Imaging: CXR: Bibasilar infiltrate/effusion
   Assessment and Plan
   52 yo man with AML s/p cord blood tx, complicated post-transplant
   course including bacillary angiomatosis, acute appendicitis , and
   aspergillus sinusitis, here with respiratory failure of unclear
   etiology
   Respiratory Failure: Still with substantial PEEP requirement.  Possible
   [**2-14**] to pulmonary infection - BAL results pending.
   Fever: Sphenoid process on sinus CT minimal.  On
   vori/levo/[**Last Name (un) 430**]/vanco/flagyl.
   AML: Follow CyA levels.  On Cellcept.  Cont atovaqone, acyclovir
   Renal Failire: Resolving and u/o remains good.  Try to diuresis as
   tolerated
   Thrombocytopenia: trending down, will follow.
   Sedation: Wean Versed gtt as tolerated. Cont Fentanyl gtt.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2184-3-18**] 12:00 PM
   Arterial Line - [**2184-3-18**] 01:11 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2184-03-29 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2184-3-29**] 06:17 AM
   - Decreased PEEP to 8, but did not tolerated, increased back to 10
   - BMT concerned that ARDS may be secondary to cyclosporine, and
   decreased dose to 50 q12 w/ plans of tapering off and switching to
   either predisone or FK
   - patinet short of I/Os goal this evening, wanted to give lasix, but
   SBP < 100, so deffered.
   - BAL specimen poor quality, not enough specimen for viral culture
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Levofloxacin - [**2184-3-28**] 03:00 PM
   Vancomycin - [**2184-3-28**] 08:17 PM
   Meropenem - [**2184-3-29**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2184-3-28**] 12:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-3-29**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37
C (98.6
   HR: 77 (68 - 89) bpm
   BP: 108/60(75) {88/44(58) - 136/73(90)} mmHg
   RR: 20 (20 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.2 kg (admission): 115 kg
             Total In:
                                                                  2,189 mL
                                                                    250 mL
   PO:
             TF:
                                                                    250 mL
   IVF:
                                                                  1,329 mL
                                                                    220 mL
   Blood products:
   Total out:
                                                                  2,460 mL
                                                                    630 mL
   Urine:
                                                                  2,460 mL
                                                                    480 mL
   NG:
   150 mL
   Stool:
   Drains:
   Balance:
                                                                   -271 mL
                                                                   -380 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   SpO2: 98%
   ABG: 7.45/35/127/25/1
   Ve: 11 L/min
   PaO2 / FiO2: 254
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Crackles : , No(t) Wheezes : ), coarse
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   35 K/uL
   9.6 g/dL
   110 mg/dL
   1.4 mg/dL
   25 mEq/L
   4.3 mEq/L
   54 mg/dL
   111 mEq/L
   143 mEq/L
   30.3 %
   4.3 K/uL
        [image002.jpg]
                             [**2184-3-27**]  07:04 PM
                             [**2184-3-27**]  10:18 PM
                             [**2184-3-28**]  04:10 AM
                             [**2184-3-28**]  04:20 AM
                             [**2184-3-28**]  09:03 AM
                             [**2184-3-28**]  01:54 PM
                             [**2184-3-28**]  02:25 PM
                             [**2184-3-28**]  04:21 PM
                             [**2184-3-29**]  04:40 AM
                             [**2184-3-29**]  04:54 AM
   WBC
   4.3
   4.3
   Hct
   27.7
   30.3
   Plt
   35
   35
   Cr
   1.3
   1.2
   1.4
   TropT
   <0.01
   TCO2
   27
   30
   28
   28
   28
   25
   Glucose
   91
   92
   110
   Other labs: PT / PTT / INR:16.1/35.6/1.4, CK / CKMB /
   Troponin-T:61/2/<0.01, ALT / AST:20/31, Alk Phos / T Bili:88/0.7,
   Differential-Neuts:68.2 %, Lymph:18.4 %, Mono:7.3 %, Eos:6.1 %, Lactic
   Acid:1.1 mmol/L, Albumin:2.8 g/dL, LDH:149 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   52 y/o male with h/o AML, now day #130 s/p cord blood transplant who
   p/w acute respiratory failure/ARDS, new fevers
 ACUTE RESPIRATORY DISTRESS SYNDROME: Etiology unclear, all infectious
   work up unrevealing to date, pt immunocomprimised & presented with
   volume overload & ARF, unlikely that resp failure [**2-14**] pulm edema
   alone.   Pt has been diuresing well but continues to be febrile >
   48hrs, pancultured, all cultures NGTD.  CT suggests multifocal PNA,
   sputum neg to date.  Patient had bronch yesterday, micro pending
   - attempt to wean PEEP today
   - f/u blood/urine/sputum cx and BAL
   - continue Abx- Day 11 Vanc/Meropenem, day 3 Levofloxacin & Flagyl,
   home reg Acyclovir & Atovaquone, Voriconazole
   - PCP negative [**Name Initial (PRE) **] 2, continue atovaqone for PPx
   - f/u blood, urine cultures
   - f/u BMT recs
   - goal i/os 500cc negative
 ID: Pt spiked fever to 102 on [**3-25**] and has been intermittently
   febrile since.  Hickman line site non-tender, no erythema.  CXR does
   not show any new infiltrate.  LE Dopplers neg for DVT, CT suggests e/o
   sinusitis & multifocal PNA. C. diff has been negative x2 & all stool
   cultures neg to date. Glucan/galactomannin neg
   - continue Day 11 Vanc/Meropenem, day 3 Levofloxacin & Flagyl, home reg
   Acyclovir & Atovaquone, Voriconazole
   - f/u cultures
 H/O LEUKEMIA, ACUTE s/p cord blood transplantation for AML currently
   day 130 s/p transplant.
   - f/u am cyclosporine level, goal of 150-200 (adjust dosing prn), dose
   increased yesterday to 75mg q12h
   - continue Cellcept,  Acyclovir & Voriconazole & Atovaquone PPx
   - f/u CMV viral load and EBV viral load (negative)
 RENAL FAILURE, ACUTE : Resolving, likely [**2-14**] ATN in setting of
   hypotension vs drug toxicity.  Pt with resolving metabolic acidosis &
   mild hyperkalemia at 5.2.  Pt continues to have good UOP with Lasix
   diuresis & creatinine has returned to baseline
   - monitoring strict i/os with goal of even to neg 500cc/day
   - now that renal function normalized, dose Vancomycin 1gram [**Hospital1 **], f/u am
   level
   - Calcium replacement scales
   - can d/c Lanthanum phos binder
 h/o ASPERGILLUS INFECTION: h/o sinus aspergillosis, on Voriconazole
   home regimen. Glucan & galactomannin neg. New fever, Head CT on [**3-26**]
   reported L sphenoid sinusitis, d/w ENT, very subtle & nothing to drain.
   -continue Voriconazole 400mg [**Hospital1 **]
   -f/u BMT recs
Thrombocytopenia: trended down slightly but essentially stable at
   baseline.
   - monitor daily
   ICU Care
   Nutrition:
   Comments: TF
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2184-3-18**] 12:00 PM
   Arterial Line - [**2184-3-18**] 01:11 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2184-3-18**] 12:00 PM
   Arterial Line - [**2184-3-18**] 01:11 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2184-03-29 12:05:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - seen by ENT
   - unable to decreased peep to 8
   - BMT concerned that ARDS may be secondary to cyclosporine. Dose
   decreased with plans of tapering to d/c, and transitioning to either
   predisone or FK
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Levofloxacin - [**2184-3-28**] 03:00 PM
   Vancomycin - [**2184-3-28**] 08:17 PM
   Meropenem - [**2184-3-29**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2184-3-28**] 12:11 PM
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-3-29**] 12:04 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.4
   HR: 75 (72 - 89) bpm
   BP: 107/59(74) {88/44(58) - 136/73(90)} mmHg
   RR: 20 (20 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.2 kg (admission): 115 kg
             Total In:
                                                                  2,189 mL
                                                                    520 mL
   PO:
             TF:
                                                                    250 mL
                                                                     38 mL
   IVF:
                                                                  1,329 mL
                                                                    352 mL
   Blood products:
   Total out:
                                                                  2,460 mL
                                                                    870 mL
   Urine:
                                                                  2,460 mL
                                                                    700 mL
   NG:
   170 mL
   Stool:
   Drains:
   Balance:
                                                                   -271 mL
                                                                   -350 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   SpO2: 97%
   ABG: 7.41/35/127/25/1
   Ve: 11 L/min
   PaO2 / FiO2: 318
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant)
   Extremities: Right: 1+, Left: 1+, UE>LE edema
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   35 K/uL
   110 mg/dL
   1.4 mg/dL
   25 mEq/L
   4.3 mEq/L
   54 mg/dL
   111 mEq/L
   143 mEq/L
   30.3 %
   4.3 K/uL
        [image002.jpg]
                             [**2184-3-27**]  07:04 PM
                             [**2184-3-27**]  10:18 PM
                             [**2184-3-28**]  04:10 AM
                             [**2184-3-28**]  04:20 AM
                             [**2184-3-28**]  09:03 AM
                             [**2184-3-28**]  01:54 PM
                             [**2184-3-28**]  02:25 PM
                             [**2184-3-28**]  04:21 PM
                             [**2184-3-29**]  04:40 AM
                             [**2184-3-29**]  04:54 AM
   WBC
   4.3
   4.3
   Hct
   27.7
   30.3
   Plt
   35
   35
   Cr
   1.3
   1.2
   1.4
   TropT
   <0.01
   TCO2
   27
   30
   28
   28
   28
   25
   Glucose
   91
   92
   110
   Other labs: PT / PTT / INR:16.1/35.6/1.4, CK / CKMB /
   Troponin-T:61/2/<0.01, ALT / AST:20/31, Alk Phos / T Bili:88/0.7,
   Differential-Neuts:68.2 %, Lymph:18.4 %, Mono:7.3 %, Eos:6.1 %, Lactic
   Acid:1.1 mmol/L, Albumin:2.8 g/dL, LDH:149 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR reviewed - ETT ok, bilat patchy infilt overall improved
   since admission
   Assessment and Plan
   52 yo male with h/o AML failed multiple chemo regimens, now day 131 s/p
   cord blood transplant, with h/o aspergillosis, bacillary angiomatosis &
   cardiomyopathy who presents with acute respiratory failure.
   1. Resp failure with ARDS:  unclear etiology, question of aspiration vs
   infection (all cx neg) vs less likely cyclosporine. CXR improved
   overall but continues to have O2/peep requirements. Bronch w/ no
   remarkable findings, microbiology negative. Will continue to keep even
   to negative and wean peep. SBT today.
   2. Fever/ ID: continue broad spectrum Abx coverage with vanc,
   meropenem, flagyl, levo. On home dose voriconazole. Non-neutropenic.
   All cultures negative. On atovaq PCP [**Name Initial (PRE) **]. Off solumedrol. Acyclovir
   proph. F/u on all cultures.
   Sphenoid process on sinus CT minimal.  On vori/levo/[**Last Name (un) 430**]/vanco/flagyl.
   ENT to assess.  Appreciate ID input.
   3. AML: s/p cord blood transplantation: with no e/o active leukemia on
   D+100 bone marrow biopsy. Cyclosporine levels elevated on admission,
   dose decreased, now likely to be stopped and transitioned to high dose
   steroids. On cellcept.
   4. ARF: creatinine much improved with good u/o. Acute on chronic renal
   failure.  Etiology unclear, urine sediment bland. Cyclosporin in
   setting of calcineuron inhibitor with baseline renal insufficiency may
   have contributed.
   5. Hx of aspergillus infection / sinus aspergillosis. Now with sphenoid
   sinus air/fluid level
 on broad spectrum Abx including vori.
   6. Thrombocytopenia: slight decrease, baseline is  ~ 50
   7. Sedation: Wean Versed gtt as tolerated. Cont Fentanyl gtt.
   ICU Care
   Nutrition: tube feeds
   Nutren Renal (Full) - [**2184-3-29**] 08:00 AM 10 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2184-3-18**] 12:00 PM
   Arterial Line - [**2184-3-18**] 01:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Wife updated
   [**Name2 (NI) 66**] status: Full code
   Disposition :ICU
   Total time: 30 minutes critical care time
   Patient is critically ill

2184-03-30 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - tried to wean vent, pCO2 increased, pt look as though he were tiring
   so switched back to AC for rest overnight
   - per BMT, cyclosporine d/c'd as possible culprit for ARDS,
   - I/O goal even
   Day 13 Vanc/Meropenem
   Day 5 Levofloxacin & Flagyl
   home reg Acyclovir & Atovaquone, Voriconazole
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Levofloxacin - [**2184-3-29**] 03:30 PM
   Vancomycin - [**2184-3-29**] 08:00 PM
   Meropenem - [**2184-3-30**] 06:00 AM
   Flagyl
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Other medications:
   Flowsheet Data as of  [**2184-3-30**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.1
C (100.5
   HR: 71 (71 - 89) bpm
   BP: 116/58(76) {99/48(63) - 145/81(99)} mmHg
   RR: 20 (16 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.2 kg (admission): 115 kg
             Total In:
                                                                  1,283 mL
                                                                    217 mL
   PO:
             TF:
                                                                     40 mL
   IVF:
                                                                    933 mL
                                                                    127 mL
   Blood products:
   Total out:
                                                                  1,590 mL
                                                                    560 mL
   Urine:
                                                                  1,220 mL
                                                                    310 mL
   NG:
                                                                    370 mL
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                   -307 mL
                                                                   -343 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 490 (490 - 490) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 14
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 29
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: 7.45/37/86/24/1
   Ve: 10.7 L/min
   PaO2 / FiO2: 215
   Physical Examination
   GEN: NAD, opening eyes & responding to questions, still ruddy
   appearance
   CV: RRR no m/r/g
   RESP: CTAB no w/r
   ABD: soft/NT/ND/NABS
   EXTR: trace edema, improved
   Labs / Radiology
   39 K/uL
   9.0 g/dL
   85 mg/dL
   1.3 mg/dL
   24 mEq/L
   4.5 mEq/L
   42 mg/dL
   113 mEq/L
   144 mEq/L
   28.2 %
   3.9 K/uL
        [image002.jpg]
                             [**2184-3-28**]  09:03 AM
                             [**2184-3-28**]  01:54 PM
                             [**2184-3-28**]  02:25 PM
                             [**2184-3-28**]  04:21 PM
                             [**2184-3-29**]  04:40 AM
                             [**2184-3-29**]  04:54 AM
                             [**2184-3-29**]  01:18 PM
                             [**2184-3-29**]  04:23 PM
                             [**2184-3-30**]  05:10 AM
                             [**2184-3-30**]  05:21 AM
   WBC
   4.3
   3.9
   Hct
   30.3
   28.2
   Plt
   35
   39
   Cr
   1.2
   1.4
   1.3
   TropT
   <0.01
   TCO2
   28
   28
   25
   28
   29
   27
   Glucose
   92
   110
   85
   Other labs: PT / PTT / INR:16.8/35.4/1.5, CK / CKMB /
   Troponin-T:61/2/<0.01, ALT / AST:20/31, Alk Phos / T Bili:88/0.7,
   Differential-Neuts:68.2 %, Lymph:18.4 %, Mono:7.3 %, Eos:6.1 %, Lactic
   Acid:1.1 mmol/L, Albumin:2.8 g/dL, LDH:149 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Diff shows rising eosinophilia (6% eos from [**3-29**])
   Fluid analysis / Other labs: CVM viral load pending from [**3-25**]
   All Urine Cx NGTD
   All Blood Cx NGTD
   [**3-27**] Repeat Influenza DFA uninterpretable, lack of cells
   Imaging: CXR [**3-29**]:
   FINDINGS:  As compared to the previous examination, there are no major
   changes.  The bibasilar atelectases are unchanged in size and
   distribution.
   The peribronchial pattern of the opacities on the left side make
   pneumonia
   more likely than atelectasis.  No newly occurred parenchymal
   opacities.  The
   monitoring and support devices are in unchanged position.
   Microbiology: [**2184-3-27**] 9:16 pm BRONCHOALVEOLAR LAVAGE
      GRAM STAIN (Final [**2184-3-27**]):
         1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Final [**2184-3-29**]):    NO GROWTH, <1000 CFU/ml.
      LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
      Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
         [**2184-3-28**]):    NEGATIVE for Pneumocystis jirvovecii (carinii).
      FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
      ACID FAST SMEAR (Final [**2184-3-29**]):
         NO ACID FAST BACILLI SEEN ON DIRECT SMEAR.
         NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.
      ACID FAST CULTURE (Pending):
      VIRAL CULTURE (Pending):
      VIRAL CULTURE: R/O CYTOMEGALOVIRUS (Final [**2184-3-28**]):
         PLEASE REFER TO VIRAL CULTURE RESULT.
         TEST CANCELLED, PATIENT CREDITED.
    Rapid Respiratory Viral Antigen Test (Final [**2184-3-28**]):
         Respiratory viral antigen test is uninterpretable due to the lack
   of
         cells.
         CULTURE CONFIRMATION PENDING.
         SPECIMEN SCREENED FOR: ADENO,PARAINFLUENZA 1,2,3 INFLUENZA A,B
   AND
         RSV.
         This kit is not FDA approved for direct detection of
   parainfluenza
         virus in specimens; interpret parainfluenza results with caution.
         REPORTED BY PHONE TO [**Female First Name (un) 1684**] V.(4I)[**2184-3-28**] AT 1204.
      VIRAL CULTURE (Pending):
   [**2184-3-29**] 1:59 pm ASPIRATE      Source: Sinus.
      GRAM STAIN (Final [**2184-3-29**]):
         1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
      RESPIRATORY CULTURE (Pending):
      FUNGAL CULTURE (Pending):
   Assessment and Plan
   52 y/o male with h/o AML, now day #131 s/p cord blood transplant who
   p/w acute respiratory failure/ARDS.
 ACUTE RESPIRATORY DISTRESS SYNDROME: Etiology unclear, all infectious
   work up unrevealing to date, pt immunocomprimised & presented with
   volume overload & ARF, unlikely that resp failure [**2-14**] pulm edema
   alone.   Pt has been diuresing well and has been afebrile > 48hrs,
   pancultured, all cultures NGTD.  CT suggests multifocal PNA, sputum neg
   to date.  Patient had bronch [**3-27**], micro pending.  BMT concerned that
   cyclosporine responsible for ARDS, case reports in the literature,
   stopped on [**3-29**].  Unable wean to PEEP of 5 overnight, will attempt
   again today, working towards extubation, RSBI 29
   - f/u blood/urine/sputum cx and BAL
   - continue Abx- Day 13 Vanc/Meropenem, day 5 Levofloxacin & Flagyl,
   home reg Acyclovir & Atovaquone, Voriconazole
   - d/c Vanc due to level of 27 today, will continue to dose by level
   - PCP negative [**Name Initial (PRE) **] 2, continue atovaqone for PPx
   - f/u BMT recs
 ID: Pt spiked fever to 102 on [**3-25**] and has been intermittently
   febrile since.  Hickman line site non-tender, no erythema. LE u/s neg
   for DVT, CT suggests e/o sinusitis & multifocal PNA. C. diff has been
   negative x2 & all stool cultures neg to date. Glucan/galactomannin neg.
   - continue Day 13 Vanc/Meropenem, day 5 Levofloxacin & Flagyl, home reg
   Acyclovir & Atovaquone, Voriconazole
   - f/u cultures
 H/O LEUKEMIA, ACUTE s/p cord blood transplantation for AML currently
   day 131 s/p transplant.
   - per BMT, cyclosporine stopped on [**3-29**], ? initiation of TK
   - continue Cellcept,  Acyclovir & Voriconazole & Atovaquone PP
   - CMV viral load pending
 RENAL FAILURE, ACUTE : Resolving, likely [**2-14**] ATN in setting of
   hypotension vs drug toxicity.  Pt with resolving metabolic acidosis.
   Pt continues to have good UOP with lasix diuresis & creatinine has
   returned to baseline
   - monitoring strict i/os with goal of even to neg 500cc/day
   - now that renal function normalized, dose Vancomycin 1gram [**Hospital1 **], f/u am
   [**Last Name (un) 899**]
   - Calcium replacement scales
   - can d/c Lanthanum phos binder
 h/o ASPERGILLUS INFECTION: h/o sinus aspergillosis, on Voriconazole
   home regimen. Glucan & galactomannin neg. New fever, Head CT on [**3-26**]
   reported L sphenoid sinusitis, d/w ENT, very subtle & nothing to drain.
   - ?discuss with ENT today the possibility of mucor in the sinuses
   -continue Voriconazole 400mg [**Hospital1 **]
   -f/u BMT recs
Thrombocytopenia: came up slightly o/n, essentially stable at
   baseline.
   - monitor daily
   ICU Care
   Nutrition:
   Comments: TF held due to high residuals
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2184-3-18**] 12:00 PM
   Arterial Line - [**2184-3-18**] 01:11 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2184-03-30 12:23:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Switched back to A/c overnight. PO2 decreased on peep 8
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Levofloxacin - [**2184-3-29**] 03:30 PM
   Vancomycin - [**2184-3-29**] 08:00 PM
   Meropenem - [**2184-3-30**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-3-30**] 12:20 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.8
C (100.1
   HR: 77 (71 - 89) bpm
   BP: 122/71(86) {99/48(63) - 145/81(99)} mmHg
   RR: 20 (16 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.2 kg (admission): 115 kg
             Total In:
                                                                  1,283 mL
                                                                    262 mL
   PO:
             TF:
                                                                     40 mL
   IVF:
                                                                    933 mL
                                                                    142 mL
   Blood products:
   Total out:
                                                                  1,590 mL
                                                                    755 mL
   Urine:
                                                                  1,220 mL
                                                                    505 mL
   NG:
                                                                    370 mL
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                   -307 mL
                                                                   -493 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 490 (490 - 490) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 14
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 29
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   SpO2: 96%
   ABG: 7.45/37/86/24/1
   Ve: 11 L/min
   PaO2 / FiO2: 215
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: No(t) Normal, Distant), (Murmur:
   No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant/lat)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, mildly sedated,
   interactive
   Labs / Radiology
   9.0 g/dL
   39 K/uL
   85 mg/dL
   1.3 mg/dL
   24 mEq/L
   4.5 mEq/L
   42 mg/dL
   113 mEq/L
   144 mEq/L
   28.2 %
   3.9 K/uL
        [image002.jpg]
                             [**2184-3-28**]  09:03 AM
                             [**2184-3-28**]  01:54 PM
                             [**2184-3-28**]  02:25 PM
                             [**2184-3-28**]  04:21 PM
                             [**2184-3-29**]  04:40 AM
                             [**2184-3-29**]  04:54 AM
                             [**2184-3-29**]  01:18 PM
                             [**2184-3-29**]  04:23 PM
                             [**2184-3-30**]  05:10 AM
                             [**2184-3-30**]  05:21 AM
   WBC
   4.3
   3.9
   Hct
   30.3
   28.2
   Plt
   35
   39
   Cr
   1.2
   1.4
   1.3
   TropT
   <0.01
   TCO2
   28
   28
   25
   28
   29
   27
   Glucose
   92
   110
   85
   Other labs: PT / PTT / INR:16.8/35.4/1.5, CK / CKMB /
   Troponin-T:61/2/<0.01, ALT / AST:20/31, Alk Phos / T Bili:88/0.7,
   Differential-Neuts:68.2 %, Lymph:18.4 %, Mono:7.3 %, Eos:6.1 %, Lactic
   Acid:1.1 mmol/L, Albumin:2.8 g/dL, LDH:149 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR reviewed - L>R basilar infiltrate
   Microbiology: All urine,blood cx negative
   BAL [**3-27**] no growth, pcp neg
   Assessment and Plan
   52 yo male with h/o AML failed multiple chemo regimens, now day 131 s/p
   cord blood transplant, with h/o aspergillosis, bacillary angiomatosis &
   cardiomyopathy who presents with acute respiratory failure.
   1. Resp failure with ARDS:  appears to be improving. Remains vent
   dependent. Will try to wean aggressively today with possible
   extubation. RSBI 29. SBT today.
   Initial ARDS precipitant is unclear. There is a question of aspiration
   vs infection (all cx neg) vs less likely cyclosporine.
   Bronch w/ no remarkable findings, microbiology negative. Will continue
   to keep even to negative.
   2. Fevers/ ID: continue broad spectrum Abx coverage with vanc,
   meropenem, flagyl, levo. On home dose voriconazole. Non-neutropenic.
   All cultures negative. On atovaq PCP [**Name Initial (PRE) **]. Off solumedrol. Acyclovir
   proph. F/u on all cultures. Will d/c meropenem. Consider non-infectious
   process for fevers.[**3-26**] LENIs negative. BAL x 2 no growth.
   Sphenoid process on sinus CT minimal.  On vori/levo/[**Last Name (un) 430**]/vanco/flagyl.
   ENT has assessed - nasal sample pending.  Appreciate ID's help and
   recommendations.
   3. AML: s/p cord blood transplantation: with no e/o active leukemia on
   D+100 bone marrow biopsy. Cyclosporine levels elevated on admission,
   dose decreased, now likely to be stopped and transitioned to high dose
   steroids. On cellcept.
   4. ARF: creatinine improving with good u/o.
   Acute on chronic renal failure.  Etiology unclear, urine sediment
   bland. Cyclosporin in setting of calcineuron inhibitor with baseline
   renal insufficiency may have contributed.
   5. Hx of aspergillus infection / sinus aspergillosis. Now with sphenoid
   sinus air/fluid level
 on broad spectrum Abx including vori.
   6. Thrombocytopenia: decreased, baseline is  ~ 50
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines: will consider changing a-line today given fevers.
   Multi Lumen - [**2184-3-18**] 12:00 PM
   Arterial Line - [**2184-3-18**] 01:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes critical care time
   Patient is critically ill

2184-03-31 06:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - extubated successfully, sating 93% on fact tent
   - developped urethral pain & grossly bloody urine
   - foley was changed out & received 6L of CBI, hct stable x 3
   - pain worse in am, no UOP for 2 hrs likely [**2-14**] clot, foley was d/c'd,
   pt had >300cc UOP
   - per BMT, pt will need to start Tacrolimus [**3-31**] am (replacement for
   cyclosporine)
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Vancomycin - [**2184-3-29**] 08:00 PM
   Meropenem - [**2184-3-30**] 06:00 AM
   Levofloxacin - [**2184-3-30**] 02:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-3-31**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.2
C (98.9
   HR: 96 (71 - 106) bpm
   BP: 113/62(77) {103/58(74) - 151/99(117)} mmHg
   RR: 26 (17 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.2 kg (admission): 115 kg
             Total In:
                                                                    575 mL
                                                                     65 mL
   PO:
             TF:
   IVF:
                                                                    335 mL
                                                                     65 mL
   Blood products:
   Total out:
                                                                  4,140 mL
                                                                  1,245 mL
   Urine:
                                                                  3,890 mL
                                                                  1,245 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,565 mL
                                                                 -1,181 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 340 (340 - 364) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 22
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: 7.38/46/77/26/0
   Ve: 10.2 L/min
   PaO2 / FiO2: 154
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right: Trace, Left: Trace, UE swelling 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   49 K/uL
   8.6 g/dL
   134 mg/dL
   1.4 mg/dL
   26 mEq/L
   4.8 mEq/L
   40 mg/dL
   112 mEq/L
   144 mEq/L
   26.7 %
   10.5 K/uL
        [image002.jpg]
                             [**2184-3-29**]  04:54 AM
                             [**2184-3-29**]  01:18 PM
                             [**2184-3-29**]  04:23 PM
                             [**2184-3-30**]  05:10 AM
                             [**2184-3-30**]  05:21 AM
                             [**2184-3-30**]  02:06 PM
                             [**2184-3-30**]  04:09 PM
                             [**2184-3-30**]  09:17 PM
                             [**2184-3-30**]  11:48 PM
                             [**2184-3-31**]  05:15 AM
   WBC
   3.9
   10.5
   Hct
   28.2
   30.3
   29.6
   26.7
   Plt
   39
   49
   Cr
   1.3
   1.4
   TCO2
   25
   28
   29
   27
   28
   28
   Glucose
   85
   134
   Other labs: PT / PTT / INR:17.4/35.4/1.6, CK / CKMB /
   Troponin-T:61/2/<0.01, ALT / AST:20/31, Alk Phos / T Bili:88/0.7,
   Differential-Neuts:68.2 %, Lymph:18.4 %, Mono:7.3 %, Eos:6.1 %, Lactic
   Acid:1.1 mmol/L, Albumin:2.8 g/dL, LDH:149 IU/L, Ca++:7.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Imaging: FINDINGS:  In comparison with the study of [**3-29**], there is
   persistent
   opacifications at the bases.  On the left, this appears somewhat more
   coalescent, raising the possibility of developing pneumonia.
   Endotracheal and
   central catheter remain in place.
   Assessment and Plan
   52 y/o male with h/o AML, now day #132 s/p cord blood transplant who
   p/w acute respiratory failure/ARDS.
 ACUTE RESPIRATORY DISTRESS SYNDROME: Etiology unclear, all infectious
   work up unrevealing to date, pt immunocomprimised & presented with
   volume overload & ARF, unlikely that resp failure [**2-14**] pulm edema
   alone.   Pt has been diuresing well, continues to be intermittently
   febrile,  all cultures NGTD.  CT suggests multifocal PNA, sputum neg to
   date.  Patient had second bronch [**3-27**], micro NGTD. BMT concerned that
   cyclosporine responsible for ARDS, stopped on [**3-29**]. Patient was
   successfully extubated [**3-30**].
   -  per ID, d/c
d Meropenem yesterday.
   - f/u blood/urine/sputum cx and BAL: all NGTD
   - continue Abx- Day 14 Vanc, day 6 Levofloxacin & Flagyl, home reg
   Acyclovir & Atovaquone, Voriconazole
   - d/c Vanc due to level of 27 yesterday, will dose by level.  Level of
   12.9 today, will re-dose
   - PCP negative [**Name Initial (PRE) **] 2, continue atovaqone for PPx
   - f/u BMT recs
HEMATURIA: Patient w/ foley associated blood clots in setting of
   elevatated INR s/p CBI.  Currently passing urine and no longer w/
   abdominal pain.  Small drop in hematocrit.
   -          f/u PM hct
   -          will check patient for BK virus
   -          leave patient w/o foley and follow to make sure making
   sufficient UOP.
 ID: Pt has been intermittently febrile since [**3-25**]. Hickman line site
   non-tender, no erythema. LE u/s neg for DVT, CT suggests e/o sinusitis
   & multifocal PNA. C. diff has been negative x2 & all stool cultures neg
   to date. Glucan/galactomannin neg.
   - continue Day 13 Vanc, Day 5 Levofloxacin & Flagyl, home reg Acyclovir
   & Atovaquone, Voriconazole
   - per ID, d/c
d Meropenem yesterday (may be causing drug fever), WBC
   rose since yesterday, BCX sent w/ fever [**Last Name (LF) 1694**], [**First Name3 (LF) 178**] trend
   - f/u cultures, but will stop redrawing
 H/O LEUKEMIA, ACUTE s/p cord blood transplantation for AML currently
   day 132 s/p transplant.
   - per BMT, cyclosporine stopped on [**3-29**], plan to start Tacrolimus on
   [**3-31**] am
   - continue Cellcept,  Acyclovir & Voriconazole & Atovaquone PPx
   - CMV Neg, will check again [**4-5**]
 RENAL FAILURE, ACUTE : Resolving, likely [**2-14**] ATN in setting of
   hypotension vs drug toxicity.  Pt with resolving metabolic acidosis but
   continues to have good UOP with lasix diuresis.  Creatinine has trended
   down to baseline, elev BUN to creatinine likely due to contraction.
   - monitoring strict i/os with goal of even to neg 1L/day
   - Vanc level elev at 12.9, giving am dose, will recheck level in am
   - Calcium replacement scales
 h/o ASPERGILLUS INFECTION: h/o sinus aspergillosis, on Voriconazole
   home regimen. Glucan & galactomannin neg. Pt developed new fevers &
   Head CT on [**3-26**] reported L sphenoid sinusitis, d/w ENT, very subtle &
   nothing to drain, performed nasal washing & sent aspirate for fungal
   culture to r/o fungal infections
   -continue Voriconazole 400mg [**Hospital1 **]
   -f/u BMT recs
Thrombocytopenia: came up slightly o/n, essentially stable at
   baseline.
   - monitor
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2184-3-18**] 12:00 PM
   Arterial Line - [**2184-3-18**] 01:11 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2184-03-31 11:52:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated yesterday
   CBI for hematuria in context of patient pulling on foley
   Ddenies complaints: no SOB, chest pain, [**Last Name (un) 499**] pain
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Vancomycin - [**2184-3-29**] 08:00 PM
   Meropenem - [**2184-3-30**] 06:00 AM
   Levofloxacin - [**2184-3-30**] 02:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-3-31**] 11:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.2
C (98.9
   HR: 92 (77 - 106) bpm
   BP: 115/65(81) {103/59(74) - 151/99(117)} mmHg
   RR: 24 (17 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.2 kg (admission): 115 kg
             Total In:
                                                                    575 mL
                                                                    116 mL
   PO:
             TF:
   IVF:
                                                                    335 mL
                                                                    116 mL
   Blood products:
   Total out:
                                                                  4,140 mL
                                                                  1,395 mL
   Urine:
                                                                  3,890 mL
                                                                  1,395 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,565 mL
                                                                 -1,280 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   FiO2: 50% face tent + 3L NC
   SpO2: 95%
   ABG: 7.38/46/77/26/0
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant/lat)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+, UE>LE edema
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x 3,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   49 K/uL
   134 mg/dL
   1.4 mg/dL
   26 mEq/L
   4.8 mEq/L
   40 mg/dL
   112 mEq/L
   144 mEq/L
   26.7 %
   10.5 K/uL
        [image002.jpg]
                             [**2184-3-29**]  04:54 AM
                             [**2184-3-29**]  01:18 PM
                             [**2184-3-29**]  04:23 PM
                             [**2184-3-30**]  05:10 AM
                             [**2184-3-30**]  05:21 AM
                             [**2184-3-30**]  02:06 PM
                             [**2184-3-30**]  04:09 PM
                             [**2184-3-30**]  09:17 PM
                             [**2184-3-30**]  11:48 PM
                             [**2184-3-31**]  05:15 AM
   WBC
   3.9
   10.5
   Hct
   28.2
   30.3
   29.6
   26.7
   Plt
   39
   49
   Cr
   1.3
   1.4
   TCO2
   25
   28
   29
   27
   28
   28
   Glucose
   85
   134
   Other labs: PT / PTT / INR:17.4/35.4/1.6, CK / CKMB /
   Troponin-T:61/2/<0.01, ALT / AST:20/31, Alk Phos / T Bili:88/0.7,
   Differential-Neuts:68.2 %, Lymph:18.4 %, Mono:7.3 %, Eos:6.1 %, Lactic
   Acid:1.1 mmol/L, Albumin:2.8 g/dL, LDH:149 IU/L, Ca++:7.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   52 yo male with h/o AML failed multiple chemo regimens, s/p cord blood
   transplant, with h/o aspergillosis, bacillary angiomatosis &
   cardiomyopathy who presents with acute respiratory failure.
   1. Resp failure with ARDS:  extubated and doing well. Still has O2
   requirements but without resp distress.
   Initial ARDS precipitant was unclear. There is a question of aspiration
   vs infection (all cx neg) vs less likely cyclosporine.
   Will continue to keep even to negative.
   2. Fevers/ ID: continue broad spectrum Abx coverage with vanc, flagyl,
   levo. On home dose voriconazole. Non-neutropenic. All cultures
   negative. On atovaq PCP [**Name Initial (PRE) **]. Off solumedrol. Acyclovir proph. F/u on
   all cultures. Meropenem d/c'd [**3-30**]. Consider non-infectious process for
   fevers. [**3-26**] LENIs negative. BAL x 2 no growth.
   Sphenoid process on sinus CT minimal.  ENT has assessed - nasal sample
   pending.  Appreciate ID's help and recommendations.
   3. AML: s/p cord blood transplantation: with no e/o active leukemia.
   Cyclosporine levels elevated on admission, dose decreased, now likely
   to be stopped and transitioned to high dose steroids. On cellcept.
   4. ARF: creatinine improving. Acute on chronic renal failure.  Etiology
   unclear, urine sediment bland.
   5. Hx of aspergillus infection / sinus aspergillosis:no with sphenoid
   sinus air/fluid level
 on broad spectrum Abx including vori.
   6. Thrombocytopenia: back to baseline of  ~ 50
   7. Hematuria - d/t trauma. Watch u/o, consider reinserting foley.
   ICU Care
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2184-3-18**] 12:00 PM
   Arterial Line - [**2184-3-18**] 01:11 PM
   Prophylaxis:
   DVT: Boots
   Communication: ICU consent signed Comments:
   Code status: Full code, Disposition :Transfer to floor, Total time
   spent: 35 minutes